2138-11-01 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2138-10-31**] 11:30 PM
   [**10-31**]:
   -intubated.  VBG at 9PM: 7.25/77/32
   -a line placed.
   SBP >180, given hydralazine 10mg IV X 1
   - started on po hydral for HTN in the 170's
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Aztreonam - [**2138-11-1**] 12:10 AM
   Ciprofloxacin - [**2138-11-1**] 01:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2138-10-31**] 08:31 PM
   Fentanyl - [**2138-10-31**] 08:31 PM
   Pantoprazole (Protonix) - [**2138-11-1**] 02:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-1**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 91 (63 - 106) bpm
   BP: 156/71(94) {140/58(79) - 192/87(121)} mmHg
   RR: 18 (15 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     99 mL
                                                                    442 mL
   PO:
             TF:
   IVF:
                                                                     99 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                    345 mL
                                                                    400 mL
   Urine:
                                                                    345 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -246 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 584 (584 - 584) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: 7.51/40/87.[**Numeric Identifier 274**]/30/7
   Ve: 8.5 L/min
   PaO2 / FiO2: 176
   Physical Examination
   General: Alert, oriented to person and place. Elderly blind female.
   NAD, non-toxic
   HEENT: Blind, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Lung sounds diminished in lower bases with crackles heard
   bilbasilar, left > right.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: 2+ edema bilaterally. Warm, well perfused, 2+ pulses, no clubbing,
   cyanosis.
   Labs / Radiology
   264 K/uL
   9.6 g/dL
   143 mg/dL
   1.4 mg/dL
   30 mEq/L
   4.1 mEq/L
   26 mg/dL
   99 mEq/L
   135 mEq/L
   30.5 %
   8.7 K/uL
        [image002.jpg]
                             [**2138-10-31**]  07:44 PM
                             [**2138-10-31**]  09:33 PM
                             [**2138-10-31**]  09:41 PM
                             [**2138-10-31**]  11:53 PM
                             [**2138-11-1**]  05:22 AM
                             [**2138-11-1**]  05:37 AM
   WBC
   7.9
   8.7
   Hct
   31.0
   30.5
   Plt
   241
   264
   Cr
   1.4
   1.4
   TropT
   <0.01
   TCO2
   36
   35
   33
   33
   Glucose
   178
   143
   Other labs: Differential-Neuts:68.5 %, Lymph:23.3 %, Mono:7.1 %,
   Eos:0.9 %,
   PT / PTT / INR:24.0/29.2/2.3
   CK / CKMB / Troponin-T:125/4/<0.01
   T Bili:0.3
   Fibrinogen:410 mg/dL,
   Lactic Acid:1.5 mmol/L, LDH:208 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL,
   PO4:1.9 mg/dL
   MICRO:
   Blood cx pending
   IMAGING:
   CXR today
   Assessment and Plan
   Assessment and Plan: Mrs. [**Known lastname 1529**] is a [**Age over 90 **] yo female with hx of chronic
   renal failure, diabetes, hyperlipidemia, spinal stenosis, legal
   blindness, PVD, and recent lingular pneumonia s/p treatment wth
   Levofloxacin who presents to the [**Hospital Unit Name 10**] with hypercapnic respiratory
   failure.
   .
   #Hypercapnic Hypoxemic respiratory failure: Patient was intubated upon
   transfer to the [**Hospital Unit Name 10**].  The differential includes CNS depression, drugs,
   neuromuscular disorders, acute airway obstruction, severe pneumonia,
   pulmonary edema.  CXR shows bilateral basilar densities that could
   represent pleural effusions or pneumonia.  She is on baseline 60mg
   Lasix at home.  CXR looked better after she received 100mg IV lasix
   upon transfer, pointing more towards pleural effusions. She has
   remained afebrile without WBC as well, although hosp-acquired pneumonia
   should be considered as well.
   - Place a-line
   - Repeat ABGs
   - Continue albuterol and ipratropium PRN as needed
   - Decrease rate and monitor status
   .
   #Pleural effusions: On outpatient basis, patient is on Lasix 60mg PO
   qd.  Differential includes CM with CHF, fluid overload, diabetic
   nephropathy causing retention of fluid, hypothyroidism. Received 100mg
   IV lasix before transit to unit with seemingly improved CXR.
   - IV lasix 100mg or consider lasix drip
   - Monitor closely I+Os with goal of at least -1L.
   .
   #Possible pneumonia: She has a high risk of hosp-acquired pneumonia as
   she has been in the hospital for 2 days.  She has a recent hx of
   lingular pneumonia s/p levofloxacin treatment.  She has been afebrile
   without an increased WBC and no subjective cough.
   - In the setting of her penicillin allergy and risk for HAP, she was
   placed on aztreonam 1000mg IV q8h and cipro 400mg IV q24h
   - Switch to vanc and levo.
   - ID c/s?
   - Monitor temps and WBC.  If she spikes, obtain blood cx x2.
   - Obtain sputum culture.
   .
   #Chest pain, NOS: Cardiac causes have been ruled out by negative
   cardiac enzymes and stress/nuclear test.  CP has not recurred.
   - Monitor for any recurrences.
   .
   #Hypertension:
   - Continue Losartan 100mg po qd and metoprolol 100mg po bid
   - Switch nifedipine to 30mg tid
   .
   #PVD: She is s/p bypass. On warfarin for anticoagulation
   - continue Warfarin.
   .
   #Glaucoma:
   - Continue regimen of atropine, cosopt, brimonidine.
   .
   #Diabetes, T2, controlled with
   - Regular ISS
   - Hold glipizide
   .
   #Hypothyroidism: Recent TSH 2.2
   - Continue Levothyroxine
   .
   #Hyperlipidemia
   - Continue simvastatin
   .
   #Chronic pain/spinal stenosis/arthritis
   - Continue tylenol for pain control.
   - Consider oxycodone 2.5mg po q6h PRN if pain not controlled.
   .
   ICU Care
   Nutrition: No IVF, replete electrolytes, consider tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-10-31**] 09:03 PM
   Arterial Line - [**2138-10-31**] 11:30 PM
   Prophylaxis:
   DVT: Warfarin
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Patient
   Contact: [**Name (NI) 1529**], [**Name (NI) 1442**] (daughter) [**Telephone/Fax (1) 8351**]
   Code status: Full
   Disposition: ICU

2138-11-01 08:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Admitted with CP though developed resp distress and hypoxemia and sent
   to ICU
    Mental status worsened
   CXR with effusions
   ABG with hypercarbia
   24 Hour Events:
 ARTERIAL LINE - START [**2138-10-31**] 11:15 PM
 ARTERIAL LINE - START [**2138-10-31**] 11:30 PM
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Aztreonam - [**2138-11-1**] 12:10 AM
   Ciprofloxacin - [**2138-11-1**] 01:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2138-10-31**] 08:31 PM
   Fentanyl - [**2138-10-31**] 08:31 PM
   Pantoprazole (Protonix) - [**2138-11-1**] 02:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-1**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 91 (63 - 106) bpm
   BP: 156/71(94) {140/58(79) - 192/87(121)} mmHg
   RR: 18 (15 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     99 mL
                                                                    452 mL
   PO:
             TF:
   IVF:
                                                                     99 mL
                                                                    422 mL
   Blood products:
   Total out:
                                                                    345 mL
                                                                    400 mL
   Urine:
                                                                    345 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -246 mL
                                                                     52 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 584 (584 - 584) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.51/40/87.[**Numeric Identifier 274**]/30/7
   Ve: 9.1 L/min
   PaO2 / FiO2: 176
   Physical Examination
   Intubated, sedated
   Hrt rrr
   Lungs decreased bs
   Abd benign
   Extrem non edema
   Labs / Radiology
   9.6 g/dL
   264 K/uL
   143 mg/dL
   1.4 mg/dL
   30 mEq/L
   4.1 mEq/L
   26 mg/dL
   99 mEq/L
   135 mEq/L
   30.5 %
   8.7 K/uL
        [image002.jpg]
                             [**2138-10-31**]  07:44 PM
                             [**2138-10-31**]  09:33 PM
                             [**2138-10-31**]  09:41 PM
                             [**2138-10-31**]  11:53 PM
                             [**2138-11-1**]  05:22 AM
                             [**2138-11-1**]  05:37 AM
   WBC
   7.9
   8.7
   Hct
   31.0
   30.5
   Plt
   241
   264
   Cr
   1.4
   1.4
   TropT
   <0.01
   TCO2
   36
   35
   33
   33
   Glucose
   178
   143
   Other labs: PT / PTT / INR:24.0/29.2/2.3, CK / CKMB /
   Troponin-T:125/4/<0.01, Alk Phos / T Bili:/0.3, Differential-Neuts:68.5
   %, Lymph:23.3 %, Mono:7.1 %, Eos:0.9 %, Fibrinogen:410 mg/dL, Lactic
   Acid:1.5 mmol/L, LDH:208 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:1.9
   mg/dL
   CXR worsening effusions
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]) / effusions
 will try to
   diurese, continue abx
 HYPERTENSION
 diurese, continue anti-hypertensives
   DM
 cont insulin
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-10-31**] 09:03 PM
   Arterial Line - [**2138-10-31**] 11:30 PM
   Prophylaxis:
   DVT: on anticoagulation already
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition :  icu
   Total time spent:  36

2138-11-02 07:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    Diuresed though creatinine increased
   24 Hour Events:
 MIDLINE - START [**2138-11-1**] 12:49 PM
   right cephalic vein per IV team note
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2138-11-1**] 01:00 AM
   Aztreonam - [**2138-11-1**] 09:09 AM
   Vancomycin - [**2138-11-1**] 11:27 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-2**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.4
C (97.5
   HR: 87 (69 - 98) bpm
   BP: 180/76(117) {99/44(61) - 182/86(117)} mmHg
   RR: 19 (12 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,788 mL
                                                                    684 mL
   PO:
             TF:
                                                                    118 mL
                                                                    217 mL
   IVF:
                                                                  1,150 mL
                                                                    367 mL
   Blood products:
   Total out:
                                                                  1,197 mL
                                                                    370 mL
   Urine:
                                                                  1,197 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    591 mL
                                                                    314 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.45/45/94.[**Numeric Identifier 433**]/29/6
   Ve: 6.1 L/min
   PaO2 / FiO2: 235
   Physical Examination
   Intubated, sedated, unresponsive
   Hrt rrr
   Lungs decreased bs
s at bases
   Abd benign
   Extrem no edema
   Labs / Radiology
   9.6 g/dL
   248 K/uL
   144 mg/dL
   1.8 mg/dL
   29 mEq/L
   4.2 mEq/L
   33 mg/dL
   99 mEq/L
   135 mEq/L
   29.7 %
   10.4 K/uL
        [image002.jpg]
                             [**2138-10-31**]  09:33 PM
                             [**2138-10-31**]  09:41 PM
                             [**2138-10-31**]  11:53 PM
                             [**2138-11-1**]  05:22 AM
                             [**2138-11-1**]  05:37 AM
                             [**2138-11-1**]  11:14 AM
                             [**2138-11-1**]  03:35 PM
                             [**2138-11-1**]  04:05 PM
                             [**2138-11-2**]  04:35 AM
                             [**2138-11-2**]  05:03 AM
   WBC
   7.9
   8.7
   10.4
   Hct
   31.0
   30.5
   29.7
   Plt
   241
   264
   248
   Cr
   1.4
   1.4
   1.7
   1.8
   TropT
   <0.01
   <0.01
   TCO2
   35
   33
   33
   31
   34
   32
   Glucose
   178
   143
   134
   144
   Other labs: PT / PTT / INR:28.0/33.3/2.7, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:35/51, Alk Phos / T Bili:125/0.4,
   Amylase / Lipase:88/15, Differential-Neuts:68.5 %, Lymph:23.3 %,
   Mono:7.1 %, Eos:0.9 %, Fibrinogen:410 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.0 g/dL, LDH:198 IU/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:4.1
   mg/dL
   CXR
 large stable effusions
   Sputum culture GPC
   Assessment and Plan
 RESPIRATORY FAILURE / effusions / ? pna
 diuresis unsuccessful,
   continue abx, non-contrast CT
 HYPERTENSION
continue anti-hypertensives
   DM
 cont insulin
   Renal insufficiency
 no further diuresis, follow
   Coagulopathy
 cont to hold coumadin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-11-2**] 04:25 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-10-31**] 09:03 PM
   Arterial Line - [**2138-10-31**] 11:30 PM
   Midline - [**2138-11-1**] 12:49 PM
   Prophylaxis:
   DVT:  INR still elevated
   Stress ulcer:   PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:    full
   Disposition :   ICU
   Total time spent:  36

2138-11-03 11:29:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT-_Chest--Large bilateral effusions with compressive atelectasis,
   thickened adrenal glands
   7.45/45/94 on ABG seen
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2138-11-1**] 01:00 AM
   Aztreonam - [**2138-11-1**] 09:09 AM
   Vancomycin - [**2138-11-3**] 08:20 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2138-11-2**] 04:59 PM
   Pantoprazole (Protonix) - [**2138-11-3**] 08:43 AM
   Midazolam (Versed) - [**2138-11-3**] 09:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Respiratory: Tachypnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2138-11-3**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.6
C (96
   HR: 71 (67 - 78) bpm
   BP: 113/56(73) {99/43(59) - 135/68(91)} mmHg
   RR: 15 (14 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,769 mL
                                                                    762 mL
   PO:
             TF:
                                                                    748 mL
                                                                    194 mL
   IVF:
                                                                    630 mL
                                                                    418 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    546 mL
   Urine:
                                                                  1,310 mL
                                                                    546 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    459 mL
                                                                    216 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 96%
   ABG: ///29/
   Ve: 6 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Distended
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   239 K/uL
   152 mg/dL
   1.9 mg/dL
   29 mEq/L
   3.8 mEq/L
   36 mg/dL
   98 mEq/L
   136 mEq/L
   30.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2138-10-31**]  09:41 PM
                             [**2138-10-31**]  11:53 PM
                             [**2138-11-1**]  05:22 AM
                             [**2138-11-1**]  05:37 AM
                             [**2138-11-1**]  11:14 AM
                             [**2138-11-1**]  03:35 PM
                             [**2138-11-1**]  04:05 PM
                             [**2138-11-2**]  04:35 AM
                             [**2138-11-2**]  05:03 AM
                             [**2138-11-3**]  04:15 AM
   WBC
   7.9
   8.7
   10.4
   10.1
   Hct
   31.0
   30.5
   29.7
   30.1
   Plt
   241
   264
   248
   239
   Cr
   1.4
   1.4
   1.7
   1.8
   1.9
   TropT
   <0.01
   <0.01
   TCO2
   33
   33
   31
   34
   32
   Glucose
   178
   143
   134
   144
   152
   Other labs: PT / PTT / INR:20.8/29.8/1.9, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:30/36, Alk Phos / T Bili:117/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.9 g/dL, LDH:171 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.9
   mg/dL
   Imaging: CT--Increasing bilateral pleural effusions noted on film with
   adrenal thickening noted.  What is most striking is the presence of
   significant and bilateral lower lobe collapse.
   CXr--ETT good position, globular heart, large bilateral pleural
   effusions.
   Assessment and Plan
   [**Age over 90 **] yo female with initial admission with chest pain--for evaluation of
   possible MI but with progression of respiratory failure patient to ICU
   for further care.  She has significant increase in bilateral effusions
   which may be contributing as possible.  Patient gives limited history
   of significant fever, bandemia interestingly and effusions to have a
   chronic presence and are bilateral arguing more for volume overload
   than acute pneumonic process or empyema.  She did have prominent
   hypercarbia as well as hypoxemia at the time of intubation.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])-This is related in part so
   relatively moderate effusions and more-so in regards to significant
   [**Hospital1 **]-lobar collapse with right and left lower lobes collapse and likely
   pneumonia.
   PEEP will be required to work to re-recruit the lower lobes
   bilaterally.  In addition, patient does have elevations in right heart
   pressures noted on past ECHO
   -Vanco/Levoflox for pneumonia
   -Albuterol is in place although resistance is normal
   -Will pursue diagsnostic thoracentesis
   -Will maintain PEEP and attempt prone position to look for capacity for
   recruitment
   2)Pleural Effusions
Does have bilateral pleural effusions without
   previous diagnostic tap at this time
   -Will maintaine negative fluid balance as possible
   -Will need diagnostic tap and will look to IP for support in completing
   procedure
   3)Acute Renal Failure-
   -Will need urine lytes
   -Will need renal ultrasound
   -Will need to continue to monitor function, urine flow and acid/base
   electrolyte status going forward as negative fluid balance is desired.
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-11-3**] 02:20 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2138-10-31**] 09:03 PM
   Arterial Line - [**2138-10-31**] 11:30 PM
   Midline - [**2138-11-1**] 12:49 PM
   Prophylaxis:
   DVT: Boots while coumadin held and INR allowed to decrease
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2138-11-04 12:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2138-11-3**] 02:24 PM
   -PICC line placed at bedside
   History obtained from Medical records
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-3**] 06:00 PM
   Levofloxacin - [**2138-11-4**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2138-11-3**] 03:39 PM
   Midazolam (Versed) - [**2138-11-3**] 05:35 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-4**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 83 (64 - 99) bpm
   BP: 142/62(81) {101/42(63) - 151/80(92)} mmHg
   RR: 22 (14 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.9 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,884 mL
                                                                  1,087 mL
   PO:
             TF:
                                                                    714 mL
                                                                    320 mL
   IVF:
                                                                    840 mL
                                                                    716 mL
   Blood products:
   Total out:
                                                                  1,005 mL
                                                                    654 mL
   Urine:
                                                                  1,005 mL
                                                                    654 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    879 mL
                                                                    433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   Compliance: 39.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/41/98.[**Numeric Identifier 500**]/28/5
   Ve: 5.8 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   228 K/uL
   157 mg/dL
   1.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   35 mg/dL
   101 mEq/L
   136 mEq/L
   28.7 %
   10.4 K/uL
        [image002.jpg]
                             [**2138-11-1**]  05:22 AM
                             [**2138-11-1**]  05:37 AM
                             [**2138-11-1**]  11:14 AM
                             [**2138-11-1**]  03:35 PM
                             [**2138-11-1**]  04:05 PM
                             [**2138-11-2**]  04:35 AM
                             [**2138-11-2**]  05:03 AM
                             [**2138-11-3**]  04:15 AM
                             [**2138-11-4**]  12:54 AM
                             [**2138-11-4**]  04:09 AM
   WBC
   8.7
   10.4
   10.1
   10.4
   Hct
   30.5
   29.7
   30.1
   28.7
   Plt
   [**Telephone/Fax (3) 8390**]28
   Cr
   1.4
   1.7
   1.8
   1.9
   1.8
   TropT
   <0.01
   TCO2
   33
   31
   34
   32
   31
   Glucose
   143
   134
   144
   152
   157
   Other labs: PT / PTT / INR:15.5/30.1/1.4, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:30/36, Alk Phos / T Bili:117/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.9 g/dL, LDH:171 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.4
   mg/dL
   Imaging: CXR-ETT and OGT in good position.  Patient with persistent and
   signficiant bilateral lower lung field opacities consistent with
   effusions
   Assessment and Plan
   [**Age over 90 **] yo female presenting with hypercarbic respiratory failure in the
   setting of large bialteral effusions.  She has had minimal spontaneous
   respiratory efforts which may be in part alkalemia and sedation in the
   setting of acute ventilatory support following hypercarbic respiratory
   failiure
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])-_At this point it is
   fundamentally hypercarbic respiratory failure with patient compromise
   with possible contributions from chest wall restriction with bilateral
   lower lobe collapse
   Pneumonia-Vanco/Levo
   Pleural Effusions/CHF
Will continue with Lasix for negative fluid
   balance, will get tap to evaluate for possible contribution from
   infection
   Will decrease respiratory rate to allow rise in CO2 more close to
   patient
s chronic levels
will decrease RR to 10
   2)Acute Renal Failure-Suggestion of pre-renal contribution to renal
   failure based upon FeNa
   -Will dose medicaitons as appropriate
   -Wil follow creatinine across time
   -Will need to maintain adequate perfusion
   3)HYPERTENSION, BENIGN-
   -On Lopressor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: PICC
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2138-11-05 10:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MIDLINE - STOP [**2138-11-4**] 11:00 AM
   right cephalic vein per IV team note
 PICC LINE - START [**2138-11-4**] 01:15 PM
   placed by iv rn [**Doctor Last Name 1094**] and confirmed by cxr per dr. [**Last Name (STitle) **]. picc was
   pulled back 4cm and ok to use per dr. [**Last Name (STitle) **] after pulled back by iv rn
   [**Doctor Last Name **].
 THORACENTESIS - At [**2138-11-4**] 06:15 PM
   Follow up CXR without evidence of PTX
   RR decreased to 8 and PEEP increase to 10 with stability of CO2 and
   increase in PaO2
   7.35/53/74
   History obtained from Medical records
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-3**] 06:00 PM
   Levofloxacin - [**2138-11-4**] 10:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2138-11-4**] 01:15 PM
   Fentanyl - [**2138-11-4**] 01:15 PM
   Pantoprazole (Protonix) - [**2138-11-4**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-5**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 89 (72 - 89) bpm
   BP: 115/56(70) {100/41(58) - 144/72(85)} mmHg
   RR: 16 (8 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.5 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,454 mL
                                                                    179 mL
   PO:
             TF:
                                                                    320 mL
   IVF:
                                                                    934 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  1,644 mL
                                                                    610 mL
   Urine:
                                                                  1,494 mL
                                                                    590 mL
   NG:
                                                                    150 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                   -190 mL
                                                                   -431 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 8
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, No Spon Resp
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/55/118/30/4
   Ve: 4.5 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
the patient does have response to verbal commands and is
   able to
   Labs / Radiology
   8.8 g/dL
   243 K/uL
   143 mg/dL
   1.7 mg/dL
   30 mEq/L
   4.1 mEq/L
   32 mg/dL
   100 mEq/L
   137 mEq/L
   27.8 %
   12.6 K/uL
        [image002.jpg]
                             [**2138-11-1**]  04:05 PM
                             [**2138-11-2**]  04:35 AM
                             [**2138-11-2**]  05:03 AM
                             [**2138-11-3**]  04:15 AM
                             [**2138-11-4**]  12:54 AM
                             [**2138-11-4**]  04:09 AM
                             [**2138-11-4**]  04:22 PM
                             [**2138-11-4**]  08:41 PM
                             [**2138-11-4**]  09:58 PM
                             [**2138-11-5**]  04:11 AM
   WBC
   10.4
   10.1
   10.4
   12.6
   Hct
   29.7
   30.1
   28.7
   27.8
   Plt
   [**Telephone/Fax (3) 8403**]43
   Cr
   1.8
   1.9
   1.8
   1.7
   TCO2
   34
   32
   31
   33
   30
   32
   Glucose
   144
   152
   157
   143
   Other labs: PT / PTT / INR:13.6/25.9/1.2, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:30/36, Alk Phos / T Bili:117/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:171 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.8
   mg/dL
   Fluid analysis / Other labs:
   Pleural Fluid-
    WBC-[**2152**]
   RBC-23,000
   Prot-3
   Gluc-146
   LDH-106
   pH-7.45
   All consistent with exudative effusion
   Imaging: CXR-With increased PEEP--patient does have increased lucency
   at apices but persistence of significant bilateral LL
   consolidations/collapse
   KUB--no evidence of free air and no frank obstruction
   Microbiology: No new results
   Assessment and Plan
   [**Age over 90 **] yo female admit to the ICU with hypercarbic respiratory failure.
   She has had reasonable tolerance of A/C support and PEEP has been
   titrated to attempt to effect some improvement in patency of lower
   lobes.  Pleural fluid tap consistent with exudative effusion.
   1)RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])-Possible pneumonia
   considered and has been with minimal secretions and no evidence of
   prominent fever or bandemia.  She has pleural fluid with exudate but
   without active infection.  This morning we have evidence that patient
   is taking spontaneous breaths but remains with what is likely her
   baseline hypercarbia.   We will move to wean of mechanical ventilation
   and move to PSV trial today.
   -Will move to PSV today or if not tolerated will decrease RR further
   -Will need to determine source of persistent ventilatory failure if
   seen and this will require challenging patient with ventilatory wean
   -Will need to continue with reasonable PEEP to look to recruit lower
   lobes
   -Albuterol/Atrovent
   -Vanco/Levofloxacin
   2)Atelectasis/Collpase-
   -Will need to maintain PEEP at adequate levels
   -Will consider PEEP and bronch for proximal airway obstruction but this
   was not seen on CT scan
   -If persistent hyoxemia or move to extubation will have to consider
   bronchochoscopy
   3)
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Will need to continue to update family on
   current clinical progress
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2138-11-06 12:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -RR decreased to 4 bpm
   -Patient did have increased agitation and increased sedation required
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-5**] 08:00 AM
   Levofloxacin - [**2138-11-6**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-11-6**] 08:16 AM
   Midazolam (Versed) - [**2138-11-6**] 11:33 AM
   Fentanyl - [**2138-11-6**] 11:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-6**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 65 (65 - 103) bpm
   BP: 123/64(78) {100/46(62) - 151/77(92)} mmHg
   RR: 8 (8 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,163 mL
                                                                    451 mL
   PO:
             TF:
             87 mL
   IVF:
                                                                    963 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    820 mL
   Urine:
                                                                  1,730 mL
                                                                    820 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                   -587 mL
                                                                   -369 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 376 (376 - 376) mL
   PS : 12 cmH2O
   RR (Set): 8
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.37/56/86.[**Numeric Identifier **]/29/4
   Ve: 3.8 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   240 K/uL
   132 mg/dL
   1.6 mg/dL
   29 mEq/L
   3.9 mEq/L
   27 mg/dL
   100 mEq/L
   139 mEq/L
   27.5 %
   11.3 K/uL
        [image002.jpg]
                             [**2138-11-2**]  05:03 AM
                             [**2138-11-3**]  04:15 AM
                             [**2138-11-4**]  12:54 AM
                             [**2138-11-4**]  04:09 AM
                             [**2138-11-4**]  04:22 PM
                             [**2138-11-4**]  08:41 PM
                             [**2138-11-4**]  09:58 PM
                             [**2138-11-5**]  04:11 AM
                             [**2138-11-5**]  04:55 PM
                             [**2138-11-6**]  05:19 AM
   WBC
   10.1
   10.4
   12.6
   11.3
   Hct
   30.1
   28.7
   27.8
   27.5
   Plt
   [**Telephone/Fax (3) 8422**]40
   Cr
   1.9
   1.8
   1.7
   1.6
   TCO2
   32
   31
   33
   30
   32
   34
   Glucose
   152
   157
   143
   132
   Other labs: PT / PTT / INR:14.5/27.8/1.3, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:30/36, Alk Phos / T Bili:117/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:177 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.0
   mg/dL
   Imaging: CXR-Decreased penetration, ETT in good position, has
   persistence of bilateral LL opacities
   Microbiology: Pleural Fluild-No growth
   Sputum-Coag Positive staph
   S-Gent/Ox/bactrim
   Assessment and Plan
   [**Age over 90 **] yo female with admission to ICU with hypercarbic respiratory
   failure--this did appear to be related in part to supression of patient
   respiratory drive as he has picked up respiratory rate and effort with
   changes in ventilator support and allowing patient to move to baseline
   PCO2.  She is left with significant bilateral lower lobe collapse seen
   at admission and with CXR in follow up.  It has been difficult to
   establish a stable-non-sedated background to evaluate RSBI and perform
   spontaneous breathing trials--this may lead us to need to move to
   extubation when clinically appropriate with quick arousal from
   sedation.  We have not seen complete resolution of bilateral lower lobe
   atelectasis but have seen improved capacity for ventilation.
   1)RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])-
   -Hold sedation this morning
   -If able to maintain adequate ventilation and oxygenation will move to
   extubation
   -Will continue treatment for pneumonia as below
   -Avoid sedating medications following extubation
   -Will need aggressive pulmonary toiled following extubation to move to
   re-recruit lower lobes bilaterally.
   2)Pneumonia-
   -Vanco/Levoflox
will change to Vanco for Rx of gram positive pneumonia
   -Follow up cuture results
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-11-6**] 08:16 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2138-11-07 11:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-11-6**] 06:25 PM
 INVASIVE VENTILATION - START [**2138-11-6**] 06:45 PM
   -Patient with extubation and unable to maintain upper airway patency or
   able to effectively ventilate
   -She had no initiation of breaths and fully collapsed upper airway
   -Post intubation, patient had ABG-->7.30/66/282
   History obtained from Medical records
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2138-11-6**] 10:00 AM
   Vancomycin - [**2138-11-6**] 09:56 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2138-11-6**] 11:33 AM
   Fentanyl - [**2138-11-6**] 11:33 AM
   Pantoprazole (Protonix) - [**2138-11-7**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2138-11-7**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2138-11-7**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 86 (65 - 100) bpm
   BP: 142/62(82) {99/48(63) - 183/113(137)} mmHg
   RR: 9 (8 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                    992 mL
                                                                    235 mL
   PO:
             TF:
                                                                    192 mL
   IVF:
                                                                    740 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                  1,230 mL
   Urine:
                                                                  1,760 mL
                                                                  1,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -868 mL
                                                                   -995 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 485 (260 - 485) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 145
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.46/44/77/29/6
   Ve: 12.6 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : ), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   262 K/uL
   99 mg/dL
   1.4 mg/dL
   29 mEq/L
   3.6 mEq/L
   24 mg/dL
   99 mEq/L
   137 mEq/L
   27.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2138-11-4**]  04:09 AM
                             [**2138-11-4**]  04:22 PM
                             [**2138-11-4**]  08:41 PM
                             [**2138-11-4**]  09:58 PM
                             [**2138-11-5**]  04:11 AM
                             [**2138-11-5**]  04:55 PM
                             [**2138-11-6**]  05:19 AM
                             [**2138-11-6**]  08:10 PM
                             [**2138-11-7**]  04:22 AM
                             [**2138-11-7**]  04:52 AM
   WBC
   10.4
   12.6
   11.3
   9.5
   Hct
   28.7
   27.8
   27.5
   27.3
   Plt
   [**Telephone/Fax (3) 8438**]62
   Cr
   1.8
   1.7
   1.6
   1.4
   TCO2
   33
   30
   32
   34
   34
   32
   Glucose
   157
   143
   132
   150
   99
   Other labs: PT / PTT / INR:15.3/27.7/1.3, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:30/36, Alk Phos / T Bili:117/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:177 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.0
   mg/dL
   Imaging: Head CT--no focal lesions
   CXR--ETT and OGT in good position.  Bilateral LL opacities persist
   without significant change
   Assessment and Plan
   [**Age over 90 **] yo female with hypercarbic respiratory compromise leading to
   admission who now has failure to extubate due to absolute absence of
   ventilatory effort post extubation and with upper airway closer needed
   mechanical intervention to open airway and was wasy mask ventilation
   when performed.  This does represent a central ventilatory failure
   where on the ventilator here we have evidence of an interesting and
   persistent pattern of centrally mediated [**Last Name (un) 4599**] [**Doctor Last Name **] pattern of
   respiration with CVA considered possible.
   1)Respiratory Failure-Significant concern for CVA driving the absence
   of capacity for maintenance of ventilation and this pattern of loss of
   central drive for ventilation with expereicne of [**Last Name (un) 4599**] [**Doctor Last Name **]
   respiration central nervous system disease has been primary concern.
   -Wean propofol completely off prior to extubation in the future is
   absolutely required but unlikely to account for the respiratory events
   of yesterday entirely.
   -We have optimized patient pulmonary mechanics with bronchodilaors,
   with pleural fluid tap and evaluation and with pulmonary infection
   treatment
   -Will need MRI today to evaluate for CNS lesion as CVA is really quite
   likely a driver of persistent ventilatory failure.
   -Atrovent/Albuterol
   -Levothyroxine has been given
   -Vanco in place
   -If reversible cause not identified then
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin and Coumadin in place
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2138-11-08 14:38:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   unable to wean off propofol due to agitation
   zyprexa prn
   MRI head- prelim read no acute CVA
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2138-11-6**] 10:00 AM
   Vancomycin - [**2138-11-7**] 07:36 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-11-7**] 11:47 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-8**] 02:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.3
   HR: 78 (70 - 104) bpm
   BP: 164/78(99) {109/48(65) - 183/93(113)} mmHg
   RR: 10 (10 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,268 mL
                                                                    474 mL
   PO:
             TF:
   IVF:
                                                                    958 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                  1,160 mL
   Urine:
                                                                  2,010 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -742 mL
                                                                   -686 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 448 (448 - 448) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.40/53/138/31/6
   Ve: 4.1 L/min
   PaO2 / FiO2: 345
   Physical Examination
   General Appearance: No acute distress, drowsy, attempts to open eyes
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   279 K/uL
   80 mg/dL
   1.3 mg/dL
   31 mEq/L
   3.2 mEq/L
   21 mg/dL
   96 mEq/L
   133 mEq/L
   26.0 %
   9.0 K/uL
        [image002.jpg]
                             [**2138-11-4**]  08:41 PM
                             [**2138-11-4**]  09:58 PM
                             [**2138-11-5**]  04:11 AM
                             [**2138-11-5**]  04:55 PM
                             [**2138-11-6**]  05:19 AM
                             [**2138-11-6**]  08:10 PM
                             [**2138-11-7**]  04:22 AM
                             [**2138-11-7**]  04:52 AM
                             [**2138-11-8**]  05:06 AM
                             [**2138-11-8**]  05:43 AM
   WBC
   12.6
   11.3
   9.5
   9.0
   Hct
   27.8
   27.5
   27.3
   26.0
   Plt
   243
   240
   262
   279
   Cr
   1.7
   1.6
   1.4
   1.3
   TCO2
   30
   32
   34
   34
   32
   34
   Glucose
   143
   132
   150
   99
   80
   Other labs: PT / PTT / INR:20.0/32.3/1.8, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:30/36, Alk Phos / T Bili:117/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:177 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Imaging: bibasilar effusions
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
   [**Age over 90 **] yo female with hypercarbic respiratory failure and MSSA PNA - failed
   attempt at extubatation with lack of central ventilatory drive
   1. Acute respiratory failure: minimal vent requirements
   Will wean sedation and attempt SBT; however, recent attempts not
   tolerated due to lack of central drive with no acute explanation on
   head MRI. CSR noted with attempts to change to PSV. In the absence of
   an obvious acute trigger, unclear that this will spontaneously improve
   On day 8 of abx therapy for MSSA- dc vanco today
   2. bilateral pleural effusions: receiving lasix to keep net fluid
   balance even
   3, ARF: renal function improving, continue to trend Cr and avoid
   nephrotoxins
   4. HTN: on metoprolol
   5. Hx left atrial clot; on warfarin
   PCP communicated that continued aggressive care unlikely to be in
   keeping with pt's wishes. Pt's daughter en route from [**Name (NI) 5379**] and will
   further address goals of care upon arrival, expected in the next [**2-14**]
   days
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2138-11-09 08:06:00 Physician Attending Progress Note
TITLE: ICU Attending Progress Note
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: [**Age over 90 **] yo female with multiple medical problems (CRI, DM, [**Name (NI) **] [**Last Name (Prefixes) 2186**])
   transferred to [**Hospital Unit Name 10**] [**10-30**] with acute hypercarbic failure
   24 Hour Events:
   ON ACV initially- did not tolerate PS due to Cheynes [**Doctor Last Name 2022**]
   Tylenol changed from scheduled to prn
   Daughter from [**Name2 (NI) 5379**] expected to arrive this morning
   History obtained from, Medical records
   Pt unable to provide history due to intubation/delirium
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Levofloxacin - [**2138-11-6**] 10:00 AM
   Vancomycin - [**2138-11-8**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Calcitonin, vitamin D, simvastatin, pantoprazole, metoprolol, SSI,
   inhalers, lasix 60 mg qd, coumadin, levothyroxine, propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-9**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 80 (73 - 96) bpm
   BP: 128/66(81) {121/57(71) - 190/123(162)} mmHg
   RR: 10 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.8 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                    855 mL
                                                                     61 mL
   PO:
             TF:
   IVF:
                                                                    505 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    800 mL
   Urine:
                                                                  1,675 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -820 mL
                                                                   -739 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 448 (448 - 448) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: ///28/
   Ve: 5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  normal turgor, no rashes
   HEENT: ETT, OGT
   Lungs: clear anteriorly, diminished at bases, no rales/wheezes
   CV RRR
   Abd: soft, nontender, +bs
   Ext: bilateral pneumoboots
   Neurologic: Moves arms spontaneously but does not follow commands
   Labs / Radiology
   8.7 g/dL
   293 K/uL
   106 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   21 mg/dL
   95 mEq/L
   132 mEq/L
   28.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2138-11-4**]  09:58 PM
                             [**2138-11-5**]  04:11 AM
                             [**2138-11-5**]  04:55 PM
                             [**2138-11-6**]  05:19 AM
                             [**2138-11-6**]  08:10 PM
                             [**2138-11-7**]  04:22 AM
                             [**2138-11-7**]  04:52 AM
                             [**2138-11-8**]  05:06 AM
                             [**2138-11-8**]  05:43 AM
                             [**2138-11-9**]  05:07 AM
   WBC
   12.6
   11.3
   9.5
   9.0
   8.1
   Hct
   27.8
   27.5
   27.3
   26.0
   28.0
   Plt
   243
   240
   262
   279
   293
   Cr
   1.7
   1.6
   1.4
   1.3
   1.4
   TCO2
   32
   34
   34
   32
   34
   Glucose
   143
   132
   150
   99
   80
   106
   Other labs: PT / PTT / INR:25.0/33.6/2.4, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.9
   mg/dL
   CXR: unchanged bibasilar effusions with obscuring of both diaphragms
   Assessment and Plan
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
   [**Age over 90 **] yo female with CRI, DM, PVD, [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2186**] admitted/intubated with
   respiratory failure. Was subsequently dx'd with MSSA PNA; however even
   after treatment she  failed attempt an  extubatation. During this
   failed attempt she was noted to have no spontaenous effort to breathe.
   1. Acute respiratory failure: minimal vent requirements; however, goes
   into CSR with attempts to drop to PSV
   curious that MRI head did not show an acute etiology behind lack of
   central drive
   Will wean sedation
   Attempt diuresis since pulmonary edema may be worsening CSR
   Avoid hypocapnia
   Finished an 8 day course of Vanco for MSSA
   2. bilateral pleural effusions: receiving lasix
   3. [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 2186**]: INR therapeutic
   3, ARF: renal function improving, continue to trend Cr and avoid
   nephrotoxins
   4. HTN: on metoprolol
   5. Hx left atrial clot; on warfarin
   Update: family conference with daughter. She acknowledges the gravity
   of her situation, is not prepared to consider withdrawal. Plan to
   continue current level of care and will continue to provide support to
   family and update them as to pt
s status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: pneumoboots, coumadin
   Stress ulcer: PPI
   VAP: elevate HOB, mouth care,
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2138-11-11 12:54:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pneumonia, chronic renal
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Required fluid bolus overnight for decrease in urine output, which is
   improved this morning.
   Continues to have few spontaneous breaths per staff.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-8**] 08:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-11-11**] 08:36 AM
   Other medications:
   Calcitonin, vit D, simvastatin, lopressor, insulin, chlorhexidine,
   albuterol/atrovent, lasix, thyroxine, colace, coumadin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-11**] 12:53 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 83 (74 - 97) bpm
   BP: 128/60(77) {89/39(52) - 157/77(93)} mmHg
   RR: 10 (10 - 14) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.3 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                    882 mL
                                                                  1,020 mL
   PO:
             TF:
                                                                    487 mL
                                                                    251 mL
   IVF:
                                                                    295 mL
                                                                    769 mL
   Blood products:
   Total out:
                                                                    907 mL
                                                                    487 mL
   Urine:
                                                                    907 mL
                                                                    487 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -25 mL
                                                                    533 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.42/44/114/30/4
   Ve: 5 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, right corneal opacity
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Few, scattered rales, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   308 K/uL
   148 mg/dL
   1.7 mg/dL
   30 mEq/L
   3.9 mEq/L
   32 mg/dL
   98 mEq/L
   135 mEq/L
   27.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2138-11-6**]  08:10 PM
                             [**2138-11-7**]  04:22 AM
                             [**2138-11-7**]  04:52 AM
                             [**2138-11-8**]  05:06 AM
                             [**2138-11-8**]  05:43 AM
                             [**2138-11-9**]  05:07 AM
                             [**2138-11-10**]  03:56 AM
                             [**2138-11-10**]  09:58 PM
                             [**2138-11-10**]  10:41 PM
                             [**2138-11-11**]  04:01 AM
   WBC
   9.5
   9.0
   8.1
   11.2
   10.7
   Hct
   27.3
   26.0
   28.0
   30.0
   27.4
   Plt
   [**Telephone/Fax (3) 8476**]46
   308
   Cr
   1.4
   1.3
   1.4
   1.6
   1.7
   TCO2
   34
   32
   34
   34
   30
   Glucose
   150
   99
   80
   106
   157
   148
   Other labs: PT / PTT / INR:23.8/34.2/2.3, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.4
   mg/dL
   Imaging: CXR: large heart, bilateral pleural effusions and diffuse
   increase in interstitial markings.
   Assessment and Plan
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
   ANEMIA
   =====================
   Still concerned that patient's hypoventilation may be partly related to
   sedation. Because there are ongoing concerns about agitation, which
   usually are associated with increases in respiratory rate, I would
   favor proceeding with percutaneous trach so that we can eliminate all
   sedation without concern about discomfort from an oral ETT. Probably
   still volume overloaded by CXR; would continue negative fluid balance.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-11-10**] 07:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2138-11-12 11:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, anemia, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   After family discussion yesterday, decision made that patient should be
   DNR. They do want to proceed with trach. Will need to have
   anticoagulation held.
   Afebrile. O2 sats have been good on AC with FIO2=0.4.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Calcitonin, famotidine, vit D, simvastatin, lopressor, insulin,
   atrovent, albuterol, thyroxine, colace.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-12**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 72 (70 - 101) bpm
   BP: 119/61(74) {92/44(55) - 183/89(113)} mmHg
   RR: 10 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.3 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,701 mL
                                                                    979 mL
   PO:
             TF:
                                                                    276 mL
   IVF:
                                                                  1,365 mL
                                                                    819 mL
   Blood products:
   Total out:
                                                                  1,407 mL
                                                                    850 mL
   Urine:
                                                                  1,107 mL
                                                                    845 mL
   NG:
   5 mL
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    294 mL
                                                                    129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: ///25/
   Ve: 5.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Conjunctiva pale, No(t)
   Sclera edema, Corneal opacity
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   359 K/uL
   138 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   30 mg/dL
   102 mEq/L
   140 mEq/L
   28.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2138-11-7**]  04:22 AM
                             [**2138-11-7**]  04:52 AM
                             [**2138-11-8**]  05:06 AM
                             [**2138-11-8**]  05:43 AM
                             [**2138-11-9**]  05:07 AM
                             [**2138-11-10**]  03:56 AM
                             [**2138-11-10**]  09:58 PM
                             [**2138-11-10**]  10:41 PM
                             [**2138-11-11**]  04:01 AM
                             [**2138-11-12**]  04:18 AM
   WBC
   9.5
   9.0
   8.1
   11.2
   10.7
   10.1
   Hct
   27.3
   26.0
   28.0
   30.0
   27.4
   28.6
   Plt
   [**Telephone/Fax (3) 8476**]46
   308
   359
   Cr
   1.4
   1.3
   1.4
   1.6
   1.7
   1.5
   TCO2
   32
   34
   34
   30
   Glucose
   99
   80
   106
   157
   148
   138
   Other labs: PT / PTT / INR:22.8/30.1/2.2, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
   ANEMIA
   PNEUMONIA
   ========================
   Oxygenation excellent; VE 5-6L/min. Coumadin being held. Plan for trach
   and PEG tomorrow. Suspect with trach, we will be able to keep her off
   sedation and she may be able to breathe sufficiently off the
   ventilator. Unclear if she will be able to eat; PEG likely  will be
   needed on long term basis.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:

2138-11-13 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Received pt intubated, vented, CMV/AS/ 500/40%/[**11-17**]. Afebrile.
   Suctioning moderate amounts of thick tan secretions from ETT
   - IP planning on trach/PEG tomorrow, given 5mg vitamin K, will likely
   need FFP to get INR to 1.5
   - call daughter with timing of procedure
   - call anesthesia in the morning b/c ETT needs to be changed to an 8
   before the procedure
   - Coumadin DCed for procedure
   - will likely d/c sedation post trach to see how she wakes up
   - hold feeds for 24 hours post PEG
   - got extra dose of metoprolol for hypertension with little effect
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-13**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 98 (72 - 98) bpm
   BP: 173/94(112) {114/58(72) - 183/94(113)} mmHg
   RR: 15 (10 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.3 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,283 mL
                                                                    175 mL
   PO:
             TF:
   IVF:
                                                                  1,123 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                    420 mL
   Urine:
                                                                  2,545 mL
                                                                    420 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,272 mL
                                                                   -245 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 4.7 L/min
   Physical Examination
   General: intubated and sedated, will move extremities but less awake
   Neck: supple, JVP not elevated, no LAD
   Lungs: coarse breath sounds anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: [**2-14**]+ edema bilaterally. Warm, well perfused, 2+ pulses, no
   clubbing, cyanosis.
   Labs / Radiology
   414 K/uL
   9.2 g/dL
   132 mg/dL
   1.4 mg/dL
   29 mEq/L
   3.8 mEq/L
   28 mg/dL
   102 mEq/L
   140 mEq/L
   28.8 %
   11.8 K/uL
        [image002.jpg]
                             [**2138-11-7**]  04:52 AM
                             [**2138-11-8**]  05:06 AM
                             [**2138-11-8**]  05:43 AM
                             [**2138-11-9**]  05:07 AM
                             [**2138-11-10**]  03:56 AM
                             [**2138-11-10**]  09:58 PM
                             [**2138-11-10**]  10:41 PM
                             [**2138-11-11**]  04:01 AM
                             [**2138-11-12**]  04:18 AM
                             [**2138-11-13**]  03:54 AM
   WBC
   9.5
   9.0
   8.1
   11.2
   10.7
   10.1
   11.8
   Hct
   27.3
   26.0
   28.0
   30.0
   27.4
   28.6
   28.8
   Plt
   [**Telephone/Fax (3) 8476**]46
   308
   359
   414
   Cr
   1.4
   1.3
   1.4
   1.6
   1.7
   1.5
   1.4
   TCO2
   34
   34
   30
   Glucose
   99
   80
   106
   157
   148
   138
   132
   Other labs: PT / PTT / INR:21.2/28.2/2.0, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 1529**] is a [**Age over 90 **] yo female with hx of chronic renal failure,
   diabetes, hyperlipidemia, spinal stenosis, legal blindness, PVD, and
   recent lingular pneumonia s/p treatment wth Levofloxacin who presents
   to the [**Hospital Unit Name 10**] with hypercapnic respiratory failure.
   .
   #Hypercapnic Hypoxemic respiratory failure: Patient was intubated upon
   transfer to the [**Hospital Unit Name 10**].  Currently she has a decreased central
   respiratory drive of unclear etiology, given no findings on head CT and
   MRI.  Sedation could be playing a role as well, so will try to wean her
   sedation.   Also, her alkalemia could be contributing to her decreased
   respiratory drive.  Currently cause of her decreased central
   respiratory drive is unclear, concern for possible alkalemia that may
   be contributing to depressed respiratory drive.
   -family agreeable to trach, IP will place trach and PEG bedside once
   INR is 1.5 or below
   -will wean sedation to see how her respiratory drive improves for now
   -pt likely has defect in central drive for respiration though head
   imaging doesn
t show anything
   - cont albuterol and ipratropium
   -has completed course of vancomycin for MSSA pneumonia
   .
   #Pleural effusions: On outpatient basis, patient is on Lasix 60mg PO
   qd, though most recent echo showed an EF>55% and no diastolic
   dysfunction, no improvement in effusions with diuresis.  Prior
   thoracentesis showed a lymphocytic predominance.  Unclear if these
   effusions are playing a role in her respiratory distress.
   .
   #Acute renal failure: originally thought to be due to lasix and
   diuresis, FeNa at the time was 0.5, pointing to a prerenal cause, but
   CXR shows volume overload and current Cr is at patient
s baseline.
   Overnight urine output has increased to average about 50cc
s per hour.
   She remains about even over the past 24 hours, still net negative about
   2.5L over the course of her ICU stay.  Today Cr=1.5, which is her
   baseline renal function
   - continue to hold losartan
   .
   #Hypertension: poorly controlled, patient with a few low blood
   pressures over the past 24 hours  so no current adjustments will
   monitor BP
s as she comes off sedation
   - Continue metoprolol 100mg po bid
   - Nifedipine cannot be restarted because it cannot be crushed
   - continue holding losartan for now
   .
   #Vomiting, regurgitation: held tube feeds yesterday afternoon because
   she vomitted feeds, had previoulsy been tolerating well, will restart
   today and see how she tolerates
   - continue antiemetics
   - continue bowel regimen
   .
   #PVD: She is s/p bypass. On coumadin for anticoagulation as well as hx
   of left atrial thrombus
   - INR 2.2 today, will hold coumadin for hopeful trach/PEG tomorrow
   .
   #Glaucoma: pt legally blind
   - Continue regimen of atropine, cosopt, brimonidine.
   .
   #Diabetes Type II: Regular ISS
   .
   #Hypothyroidism: Recent TSH 2.2, Continue home dose Levothyroxine
   .
   #Hyperlipidemia: Continue home dose simvastatin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: anticoagulated on coumadin
   Stress ulcer: H2 Blocker
   VAP:  bundle
   Comments:
   Communication:  Comments:  Communication with family-2 daughters are
   here, one in [**Location (un) **] who is coming  as well before any further
   decisions are made
   Code status: DNR/DNI
   Disposition: ICU-family is agreeable to trach/PEG and possible care
   post discharge in a nursing facility

2138-11-13 09:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumonia, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient given vitamin K last night.  Being prepared for trach. Remained
   on ventilator overnight with acceptable oxygen saturation - Assist
   control, VT 500, FIO2=0.4. Switched to PSV 45 mins ago.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   calcitonin, simvastatin, metoprolol, insulin, chlorhexidine, albuterol,
   atrovent, lasix, thyroxine, colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-13**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 86 (72 - 98) bpm
   BP: 132/68(83) {114/55(72) - 179/94(112)} mmHg
   RR: 12 (10 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.3 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,283 mL
                                                                    202 mL
   PO:
             TF:
   IVF:
                                                                  1,123 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                    520 mL
   Urine:
                                                                  2,545 mL
                                                                    520 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,272 mL
                                                                   -318 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 396 (396 - 396) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 4.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Sedated
   Eyes / Conjunctiva: No(t) PERRL, Right corneal opacity
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, Minimal bowel sounds
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   414 K/uL
   132 mg/dL
   1.4 mg/dL
   29 mEq/L
   3.8 mEq/L
   28 mg/dL
   102 mEq/L
   140 mEq/L
   28.8 %
   11.8 K/uL
        [image002.jpg]
                             [**2138-11-7**]  04:52 AM
                             [**2138-11-8**]  05:06 AM
                             [**2138-11-8**]  05:43 AM
                             [**2138-11-9**]  05:07 AM
                             [**2138-11-10**]  03:56 AM
                             [**2138-11-10**]  09:58 PM
                             [**2138-11-10**]  10:41 PM
                             [**2138-11-11**]  04:01 AM
                             [**2138-11-12**]  04:18 AM
                             [**2138-11-13**]  03:54 AM
   WBC
   9.5
   9.0
   8.1
   11.2
   10.7
   10.1
   11.8
   Hct
   27.3
   26.0
   28.0
   30.0
   27.4
   28.6
   28.8
   Plt
   [**Telephone/Fax (3) 8476**]46
   308
   359
   414
   Cr
   1.4
   1.3
   1.4
   1.6
   1.7
   1.5
   1.4
   TCO2
   34
   34
   30
   Glucose
   99
   80
   106
   157
   148
   138
   132
   Other labs: PT / PTT / INR:21.2/28.2/2.0, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
   ANEMIA
   ========================
   Respiratory status stable on the ventilator. Plan for trach today;
   getting FFP to reverse coumadin for procedure. Patient on PSV now with
   VE 3.5 L/min. Would check VBG - suspect that PaCO2 may be quite high
   and normal saturations are reflecting the supplemental oxygen. Although
   she has shown more evidence of spontaneous breathing in the past few
   days, there was some difficulty with intubation after last extubation.
   Given this and the fact that she was an aspiration risk even before
   this hospitalization, I would still proceed with trach and PEG, both of
   which can be removed in the next few months if she does well.
   Blood pressure has been hgih in the morning. Plan is to change
   frequency of metoprolol.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   With anticoagulation being reversed, will need DVT prophylaxis.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2138-11-14 05:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - rechecked VBG [**11-13**] daytime while on Pressure Support shows:
   7.35/60/46/35
   - patient much more awake and alert today
   - Got trach/PEG by IP today (INR brought down to 1.4 w 2 bags FFP
   beforehand); meds started via PEG 2 hrs post-procedure; feedings can
   start tomorrow
   - blood pressure elevated to 190s systolic in evening, pt given IV 5mg
   metoprolol and po metoprolol; bp still elevated in the 200s systolic-->
   given 50mcg fentanyl IV in case pain is elevating her BP, which worked
   to bring down BPs to 130s systolic.
   - By 11:30pm, BP back up to 200s systolic --> given 10mg IV hydralazine
   once and restarted on 100mg losartan (home dose) daily (to start in AM)
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-13**] 08:35 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2138-11-13**] 06:36 PM
   Fentanyl - [**2138-11-13**] 10:30 PM
   Hydralazine - [**2138-11-13**] 11:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-14**] 05:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.3
   HR: 102 (74 - 104) bpm
   BP: 171/78(96) {84/48(55) - 204/99(122)} mmHg
   RR: 13 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.3 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,485 mL
                                                                     52 mL
   PO:
             TF:
   IVF:
                                                                    764 mL
                                                                     52 mL
   Blood products:
                                                                    631 mL
   Total out:
                                                                  1,520 mL
                                                                    450 mL
   Urine:
                                                                  1,520 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -35 mL
                                                                   -398 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 136 (136 - 396) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 194
   PIP: 31 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.47/43/156//7
   Ve: 4.7 L/min
   PaO2 / FiO2: 390
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   414 K/uL
   9.2 g/dL
   132 mg/dL
   1.4 mg/dL
   29 mEq/L
   3.8 mEq/L
   28 mg/dL
   102 mEq/L
   140 mEq/L
   28.8 %
   11.8 K/uL
        [image002.jpg]
                             [**2138-11-8**]  05:06 AM
                             [**2138-11-8**]  05:43 AM
                             [**2138-11-9**]  05:07 AM
                             [**2138-11-10**]  03:56 AM
                             [**2138-11-10**]  09:58 PM
                             [**2138-11-10**]  10:41 PM
                             [**2138-11-11**]  04:01 AM
                             [**2138-11-12**]  04:18 AM
                             [**2138-11-13**]  03:54 AM
                             [**2138-11-13**]  09:46 PM
   WBC
   9.0
   8.1
   11.2
   10.7
   10.1
   11.8
   Hct
   26.0
   28.0
   30.0
   27.4
   28.6
   28.8
   Plt
   279
   293
   346
   [**Telephone/Fax (3) 8527**]
   Cr
   1.3
   1.4
   1.6
   1.7
   1.5
   1.4
   TCO2
   34
   34
   30
   32
   Glucose
   80
   106
   157
   148
   138
   132
   Other labs: PT / PTT / INR:16.3/28.2/1.4, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 1529**] is a [**Age over 90 **] yo female with hx of chronic renal failure,
   diabetes, hyperlipidemia, spinal stenosis, legal blindness, PVD, and
   recent lingular pneumonia s/p treatment wth Levofloxacin who presents
   to the [**Hospital Unit Name 10**] with hypercapnic respiratory failure.
   .
   #Hypercapnic Hypoxemic respiratory failure: Patient was intubated for
   about 13 days.  Trialed on pressure support this morning, doing well
   with respiratory drive on 15/5 and propafol turned down to 10mcgs/
   hr.
   -  IP will place trach and PEG today at bedside once INR is 1.5 or
   below
   - will get 4 bags FFP and recheck INR
   -will wean sedation to see how her respiratory drive improves for now
   -pt likely has defect in central drive for respiration though head
   imaging doesn
t show anything
 check VBG to see if she is hypercapnic
   - cont albuterol and ipratropium
   -has completed course of vancomycin for MSSA pneumonia
   .
   #Pleural effusions: On outpatient basis, patient is on Lasix 60mg PO
   qd, though most recent echo showed an EF>55% and no diastolic
   dysfunction, no improvement in effusions with diuresis.  Prior
   thoracentesis showed a lymphocytic predominance.  Unclear if these
   effusions are playing a role in her respiratory distress.
   - cont to monitor
   .
   #Hypertension: poorly controlled, patient with a few low blood
   pressures over the past 24 hours  so no current adjustments will
   monitor BP
s as she comes off sedation
   - Change metoprolol to 75mg po TID (from 100mg po bid)
   - Nifedipine cannot be restarted because it cannot be crushed
   - continue holding losartan for now
   .
   #Acute renal failure: originally thought to be due to lasix and
   diuresis, FeNa at the time was 0.5, but current Cr appears to be at
   patient
s baseline.  Today Cr=1.4, which we believe is at her baseline
   renal function
   - holding losartan for now, though can consider restarting because Cr
   stable
   .
   #PVD: She is s/p bypass. On coumadin for anticoagulation as well as hx
   of left atrial thrombus
   - INR 2.0 this AM, but holding coumadin for trach/PEG
   - got vitamin K po 5mg yesterday and will get 4 bags FFP today before
   procedure
   .
   #Glaucoma: pt legally blind
   - Continue regimen of atropine, cosopt, brimonidine.
   .
   #Diabetes Type II: Regular ISS
   .
   #Hypothyroidism: Recent TSH 2.2, Continue home dose Levothyroxine
   .
   #Hyperlipidemia: Continue home dose simvastatin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2138-11-14 11:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumonia, altered mental status.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had trach and PEG placed yesterday. Blood pressure up last
   night; had missed dose of beta blocker because of procedures.
   On PSV 15/5 this AM. Sedation stopped this AM. Mental status somewhat
   improved.
   Afebrile.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-13**] 08:35 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2138-11-13**] 06:36 PM
   Hydralazine - [**2138-11-13**] 11:54 PM
   Fentanyl - [**2138-11-14**] 02:00 AM
   Other medications:
   Calcitonin, vit D, zocor, insulin, chlorhexidine, lasix, synthroid,
   pepcid, lopressor, cozar, albuterol, atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-14**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 100 (74 - 104) bpm
   BP: 146/70(88) {138/62(81) - 204/99(122)} mmHg
   RR: 22 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,485 mL
                                                                    312 mL
   PO:
             TF:
   IVF:
                                                                    764 mL
                                                                    312 mL
   Blood products:
                                                                    631 mL
   Total out:
                                                                  1,520 mL
                                                                    945 mL
   Urine:
                                                                  1,520 mL
                                                                    945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -35 mL
                                                                   -633 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 385 (136 - 385) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 194
   PIP: 31 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.47/43/156/30/7
   Ve: 4.8 L/min
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   322 K/uL
   122 mg/dL
   1.4 mg/dL
   30 mEq/L
   3.4 mEq/L
   23 mg/dL
   96 mEq/L
   136 mEq/L
   35.5 %
   9.2 K/uL
        [image002.jpg]
                             [**2138-11-8**]  05:43 AM
                             [**2138-11-9**]  05:07 AM
                             [**2138-11-10**]  03:56 AM
                             [**2138-11-10**]  09:58 PM
                             [**2138-11-10**]  10:41 PM
                             [**2138-11-11**]  04:01 AM
                             [**2138-11-12**]  04:18 AM
                             [**2138-11-13**]  03:54 AM
                             [**2138-11-13**]  09:46 PM
                             [**2138-11-14**]  05:03 AM
   WBC
   8.1
   11.2
   10.7
   10.1
   11.8
   9.2
   Hct
   28.0
   30.0
   27.4
   28.6
   28.8
   35.5
   Plt
   293
   346
   308
   359
   414
   322
   Cr
   1.4
   1.6
   1.7
   1.5
   1.4
   1.4
   TCO2
   34
   34
   30
   32
   Glucose
   106
   157
   148
   138
   132
   122
   Other labs: PT / PTT / INR:20.9/32.4/1.9, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
   PNEUMONIA
   =======================
   Mental status improving off sedation. Doing well on PSV. Will contine
   to reduce the amount of PSV and if doing well, try on trach mask later
   today. Evaluate for rehab placement.
   Afebrile. WBC normal. Replete electrolytes on lasix.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin to be restarted.
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition : DNR
   Total time spent: 30 minutes

2138-11-15 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**11-14**]:
   - Restarted coumadin
   - getting screened for placement
   - Added standing tylenol for high BPs in case pain may be a factor in
   high bp's seen in previous night that relieved some with fentanyl plus
   losartan
   - gave 2 mg morphine b/c patient tachypneic and tachycardic...trying to
   bite nurses. concern for pain. did not help much, changed to AC and
   calmed down. quiet most of evening. around 0530 woke up more, trying to
   bite more gave another 2 mg of morphine.
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-13**] 08:35 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-11-14**] 08:00 AM
   Morphine Sulfate - [**2138-11-15**] 04:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-15**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (98.9
   HR: 100 (78 - 113) bpm
   BP: 131/65(79) {100/43(57) - 169/88(108)} mmHg
   RR: 25 (12 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                    859 mL
                                                                    343 mL
   PO:
             TF:
                                                                    167 mL
                                                                    170 mL
   IVF:
                                                                    491 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,505 mL
                                                                    270 mL
   Urine:
                                                                  1,505 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -646 mL
                                                                     73 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 203 (182 - 385) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 200
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 99%
   ABG: ///28/
   Ve: 9.7 L/min
   Physical Examination
   Labs / Radiology
   385 K/uL
   9.3 g/dL
   142 mg/dL
   1.8 mg/dL
   28 mEq/L
   3.7 mEq/L
   31 mg/dL
   103 mEq/L
   141 mEq/L
   29.6 %
   14.7 K/uL
        [image002.jpg]
                             [**2138-11-9**]  05:07 AM
                             [**2138-11-10**]  03:56 AM
                             [**2138-11-10**]  09:58 PM
                             [**2138-11-10**]  10:41 PM
                             [**2138-11-11**]  04:01 AM
                             [**2138-11-12**]  04:18 AM
                             [**2138-11-13**]  03:54 AM
                             [**2138-11-13**]  09:46 PM
                             [**2138-11-14**]  05:03 AM
                             [**2138-11-15**]  04:02 AM
   WBC
   8.1
   11.2
   10.7
   10.1
   11.8
   9.2
   14.7
   Hct
   28.0
   30.0
   27.4
   28.6
   28.8
   35.5
   29.6
   Plt
   293
   346
   308
   359
   414
   322
   385
   Cr
   1.4
   1.6
   1.7
   1.5
   1.4
   1.4
   1.8
   TCO2
   34
   30
   32
   Glucose
   106
   157
   148
   138
   132
   122
   142
   Other labs: PT / PTT / INR:20.9/32.4/1.9, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 1529**] is a [**Age over 90 **] yo female with hx of chronic renal failure,
   diabetes, hyperlipidemia, spinal stenosis, legal blindness, PVD, and
   recent lingular pneumonia s/p treatment wth Levofloxacin who presents
   to the [**Hospital Unit Name 10**] with hypercapnic respiratory failure.
   .
   #Hypercapnic Hypoxemic respiratory failure: Patient was intubated for
   about 13 days before getting Trach and PEG yesterday by IP.   Trialed
   on pressure support this morning, doing well with respiratory drive on
   15/5 and propafol turned off around 7:30am.  she is likely still
   sedated from high doses of fentanyl yesterday for procedure and for
   blood pressure elevation secondary to pain.
   - Started Coumadin
    - cont albuterol and ipratropium
   -has completed course of vancomycin for MSSA pneumonia
   - can make transition to ventilator rehabilitation center to be weaned
   of vent
   .
   #Leukocytosis: Elevated from yesterday with low grade fever and new LUL
   infiltrate on CXR. Concerning for VAP.
   - Pan culture
   - Empirically treat with Vanc/Cefepime/Cipro
   #Agitation: Patient with intermittent agitation where she is pulling at
   her trach and biting nurses. Unclear if she is delirious, possibly
   secondary to infection, sundowning, or pain.
   - Assess for infection as above
   - Consider Zyprexa [**Hospital1 **]
   - Continue standing Tylenol for pain
   #Acute on Chronic Renal Failure: Increased Cr from 1.4 to 1.8.
   Pre-renal, renal, or post-renal.
   - Urine lytes pending
   - Consider ultrasound if concerning
   - Renally dose medications
   #Pleural effusions: On outpatient basis, patient is on Lasix 60mg PO
   qd, though most recent echo showed an EF>55% and no diastolic
   dysfunction, no improvement in effusions with diuresis.  Prior
   thoracentesis showed a lymphocytic predominance.  Unclear if these
   effusions are playing a role in her respiratory distress.
   - cont to monitor
   .
   #Hypertension: Currently with controlled BPs after losartan restarted
   yesterday.
   - Continue Losartan
   - Change metoprolol to 75mg po TID (from 100mg po bid)
   - Nifedipine cannot be restarted because it cannot be crushed
   - Continue to monitor and consider IV hydralazine for sbp > 180
   .
   .
   #PVD: She is s/p bypass. On coumadin at home for anticoagulation as
   well as hx of left atrial thrombus
   - restart coumadin after IP checks her trach and PEG today
   .
   #Glaucoma: pt legally blind
   - Continue eye drop regimen of atropine, cosopt, brimonidine
   .
   #Diabetes Type II: Regular ISS
   .
   #Hypothyroidism: Recent TSH 2.2, Continue home dose Levothyroxine
   .
   #Hyperlipidemia: Continue home dose simvastatin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:  DVT: holding coumadin until after IP checks on Trach and
   PEG
   Stress ulcer: H2 Blocker
   VAP:  bundle
   Comments:
   Communication:  Comments:  Communication with family-2 daughters are
   here, one in [**Location (un) **] who is coming  as well before any further
   decisions are made
   Code status: DNR/DNI
   Disposition: [**Hospital 8539**] Rehab facility

2138-11-15 10:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with recurrent tachypnea, tachycardia and given MSO4 and
   return to A/C support
   -Screening for Rehab under way
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-13**] 08:35 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2138-11-15**] 04:58 AM
   Famotidine (Pepcid) - [**2138-11-15**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2138-11-15**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.1
   HR: 90 (78 - 113) bpm
   BP: 111/48(61) {100/43(57) - 166/82(99)} mmHg
   RR: 18 (12 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                    859 mL
                                                                    530 mL
   PO:
             TF:
                                                                    167 mL
                                                                    242 mL
   IVF:
                                                                    491 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  1,505 mL
                                                                    330 mL
   Urine:
                                                                  1,505 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -646 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 203 (182 - 282) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 200
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 99%
   ABG: ///28/
   Ve: 9.7 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Tracheostomy tube in place
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   385 K/uL
   142 mg/dL
   1.8 mg/dL
   28 mEq/L
   3.7 mEq/L
   31 mg/dL
   103 mEq/L
   141 mEq/L
   29.6 %
   14.7 K/uL
        [image002.jpg]
                             [**2138-11-9**]  05:07 AM
                             [**2138-11-10**]  03:56 AM
                             [**2138-11-10**]  09:58 PM
                             [**2138-11-10**]  10:41 PM
                             [**2138-11-11**]  04:01 AM
                             [**2138-11-12**]  04:18 AM
                             [**2138-11-13**]  03:54 AM
                             [**2138-11-13**]  09:46 PM
                             [**2138-11-14**]  05:03 AM
                             [**2138-11-15**]  04:02 AM
   WBC
   8.1
   11.2
   10.7
   10.1
   11.8
   9.2
   14.7
   Hct
   28.0
   30.0
   27.4
   28.6
   28.8
   35.5
   29.6
   Plt
   293
   346
   308
   359
   414
   322
   385
   Cr
   1.4
   1.6
   1.7
   1.5
   1.4
   1.4
   1.8
   TCO2
   34
   30
   32
   Glucose
   106
   157
   148
   138
   132
   122
   142
   Other labs: PT / PTT / INR:20.9/32.4/1.9, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.3
   mg/dL
   Imaging: CXR--persistence of mild-moderate effusions but with evolution
   of left upper lobe infiltrate compared with previous film
   Assessment and Plan
   [**Age over 90 **] yo female with respiratory failure and now s/p trach and PEG
   placement.  She has had persistent and continued need for ventilatory
   support.  In addition she has an increase in WBC count from yesterday
   in the setting of low grade fever.
   1)Respiratory Failure-
   -Will send sputum for culture
   -Will need to maintain regular evaluation for evolution of infiltrate
   -Will start antibiotics given rising WBC count, low grade infiltrate
   and new pulmonary infiltrate
will cover for pseudomonas and S.
   Aureus
Vanco/double coverage for GNR
s with Cefepime/Cipro
   -Will minimize sedation and look to maintain in MMV and move to trach
   mask trial
   -Souce of respiratory failure does remain to be full defined but
   combined issues of central and peripheral source of ventilatory failure
   seen
   2)Acute Renal Failure-
   -Concerning increase in creatinine noted and will maintain adquate
   volume support
   -Follow urine ouput and creatinine
   -Urine lytes and ultrasound if worsening seen
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-11-14**] 03:38 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 35 minutes

2138-11-16 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2138-11-15**] 09:44 AM
 BLOOD CULTURED - At [**2138-11-15**] 09:45 AM
 BLOOD CULTURED - At [**2138-11-15**] 11:38 AM
 SPUTUM CULTURE - At [**2138-11-15**] 12:04 PM
   - Pt. more responsive when family was around, shook her head yes to
   pain
   - remained on pressure support overnight [**1-17**], tolerating well with a
   couple times when her minute ventilation decreased briefly to 3-4L (b/c
   tidal volumes had dropped to 200ccs)
   - not many secretions
   - started vanc/cefepime/cipro yesterday [**11-15**] (today day#2) for
   presumed VAP for increasing leukocytosis and possible LUL opacity on
   CXR
   - changed foley overnight for positive UA
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Cefipime - [**2138-11-15**] 11:13 AM
   Ciprofloxacin - [**2138-11-15**] 11:38 AM
   Vancomycin - [**2138-11-15**] 12:45 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-11-15**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-16**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 87 (76 - 108) bpm
   BP: 141/65(82) {93/36(49) - 160/70(100)} mmHg
   RR: 23 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,930 mL
                                                                    909 mL
   PO:
             TF:
                                                                    780 mL
                                                                    255 mL
   IVF:
                                                                    690 mL
                                                                    564 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    165 mL
   Urine:
                                                                    970 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    960 mL
                                                                    744 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 323 (258 - 356) mL
   PS : 12 cmH2O
   RR (Set): 6
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 113
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: ///30/
   Ve: 5 L/min
   Physical Examination
   GEN: responds to some verbal
   HEENT:  decreased secretions from yesterday, eyes closed, no pupils
   visible (unchanged)
   CHEST: anterior chest and right posterior chest sound clear; could not
   listen to posterior left chest due to positioning
   ABD:  soft, PEG tube site clean dry and intact
   EXT:  pedal edema unchaged, feet warm and well perfused
   NEURO:  can respond to commands to open eyes (cannot open them fully)
   and squeeze w left hand; does not squeeze w right hand or move toes
   when asked
   Labs / Radiology
   353 K/uL
   8.2 g/dL
   161 mg/dL
   1.9 mg/dL
   30 mEq/L
   3.6 mEq/L
   41 mg/dL
   105 mEq/L
   142 mEq/L
   25.9 %
   9.7 K/uL
        [image002.jpg]
                             [**2138-11-10**]  03:56 AM
                             [**2138-11-10**]  09:58 PM
                             [**2138-11-10**]  10:41 PM
                             [**2138-11-11**]  04:01 AM
                             [**2138-11-12**]  04:18 AM
                             [**2138-11-13**]  03:54 AM
                             [**2138-11-13**]  09:46 PM
                             [**2138-11-14**]  05:03 AM
                             [**2138-11-15**]  04:02 AM
                             [**2138-11-16**]  04:04 AM
   WBC
   11.2
   10.7
   10.1
   11.8
   9.2
   14.7
   9.7
   Hct
   30.0
   27.4
   28.6
   28.8
   35.5
   29.6
   25.9
   Plt
   346
   308
   359
   [**Telephone/Fax (3) 8552**]
   353
   Cr
   1.6
   1.7
   1.5
   1.4
   1.4
   1.8
   1.9
   TCO2
   34
   30
   32
   Glucose
   157
   148
   138
   132
   122
   142
   161
   Other labs: PT / PTT / INR:20.9/32.4/1.9, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.1
   mg/dL
   UA [**2138-11-16**]:  RBC 5 ,  WBC 20 , Bacteria Few , Epi 3 ,
   UA [**11-15**] :  RBC 44, WBC 7 , Epi <1 , GrCasts: 4 ,  HyalineCasts 13
[**11-15**]  Sputum GRAM STAIN (Final [**2138-11-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
   Assessment and Plan
   Mrs. [**Known lastname 1529**] is a [**Age over 90 **] yo female with hx of chronic renal failure,
   diabetes, hyperlipidemia, spinal stenosis, legal blindness, PVD, and
   recent lingular pneumonia s/p treatment wth Levofloxacin who presents
   to the [**Hospital Unit Name 10**] with hypercapnic respiratory failure.
   .
   #Hypercapnic Hypoxemic respiratory failure: Patient was intubated for
   about 13 days before getting Trach and PEG [**2138-11-13**] by IP.   On
   pressure support overnight, doing well with 12/5 and propafol off all
   day and night.   She did get zyprexa last night which helped with
   agitation and may have sedated her slightly.  Likely has new VAP, in
   context of new LUL infiltrate on CXR.  Placed on PS 5/0 trial this AM.
   - Day # 2 Vanc/Cefepime/Cipro
   - F/U blood/urine/sputum Cxs
   - continue on PS 5/0 as much as pt can tolerate and try trach collar
   while sitting up; can get VBG after a couple of hours on PS 5/0
   - consider PT consult
   - cont albuterol and ipratropium
   -has completed course of vancomycin for MSSA pneumonia
   - can make transition to ventilator rehabilitation center to be weaned
   of vent, likely Monday
   .
   #Agitation:  Was not agitated overnight last night, though had
   attempted biting nurses previous night.  Zyprexa had good effect last
   night.  [**Month (only) 11**] have been secondary to delirium in setting of new
   pneumonia.
   - Zyprexa PRN, consider standing order [**Hospital1 **]
   - Continue standing Tylenol for pain
   #Acute on Chronic Renal Failure: Increased Cr to 1.9 from 1.4.  Has
   some chronic renal insufficiency, intrarenal.  Likely has some prerenal
   component because hyaline casts in yesterday
s UA, but not given much
   fluid overall.  [**Month (only) 11**] have some post-renal component as well.  Did
   receive 500ml bolus very early this AM.
   - FeNa 1.9% from [**11-15**]
   - hold off on IVFs now as urine output has picked up from 20cc/hr to
   40cc/hr later this AM and is positive almost 1L in past 8hrs
   - Consider ultrasound if continues to worsen
   - Renally dose medications
   #Pleural effusions: On outpatient basis, patient is on Lasix 60mg PO
   qd, though most recent echo showed an EF>55% and no diastolic
   dysfunction, no improvement in effusions with diuresis.  Prior
   thoracentesis showed a lymphocytic predominance.  Unclear if these
   effusions are playing a role in her respiratory distress.
   - cont to monitor
   .
   #Hypertension: Currently with controlled BPs.
   - Continue Losartan
   - Change metoprolol to 75mg po TID (from 100mg po bid)
   - continue PRN zyprexa for agitation which contributes to increased BPs
   - Nifedipine cannot be restarted because it cannot be crushed
   - Continue to monitor and consider IV hydralazine for sbp > 180
   .
   #PVD: She is s/p bypass.  Has hx of left atrial thrombus.  Restarted
   Coumadin [**11-14**] afternoon.
   -  follow INR w goal [**3-18**]
   .
   #Glaucoma: pt legally blind
   - Continue eye drop regimen of atropine, cosopt, brimonidine
   .
   #Diabetes Type II: Regular ISS
   .
   #Hypothyroidism: Continue home dose Levothyroxine, switch back to PO
   .
   #Hyperlipidemia: Continue home dose simvastatin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-11-16**] 12:08 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   Prophylaxis:  DVT:  coumadin
   Stress ulcer: H2 Blocker (switch back to PO from IV)
   VAP:  bundle
   Comments:
   Communication:  Comments:  2 daughters
   [**Name (NI) 129**] status: DNR/DNI
   Disposition: [**Hospital 8539**] Rehab facility

2138-11-16 11:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2138-11-15**] 09:44 AM
 BLOOD CULTURED - At [**2138-11-15**] 09:45 AM
 BLOOD CULTURED - At [**2138-11-15**] 11:38 AM
 SPUTUM CULTURE - At [**2138-11-15**] 12:04 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Cefipime - [**2138-11-15**] 11:13 AM
   Ciprofloxacin - [**2138-11-15**] 11:38 AM
   Vancomycin - [**2138-11-15**] 12:45 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-11-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2138-11-16**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 78 (75 - 102) bpm
   BP: 118/47(62) {93/36(49) - 146/68(100)} mmHg
   RR: 17 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,930 mL
                                                                  1,281 mL
   PO:
             TF:
                                                                    780 mL
                                                                    441 mL
   IVF:
                                                                    690 mL
                                                                    610 mL
   Blood products:
   Total out:
                                                                    970 mL
                                                                    245 mL
   Urine:
                                                                    970 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    960 mL
                                                                  1,036 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 367 (258 - 367) mL
   PS : 12 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 113
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy tube in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   353 K/uL
   161 mg/dL
   1.9 mg/dL
   30 mEq/L
   3.6 mEq/L
   41 mg/dL
   105 mEq/L
   142 mEq/L
   25.9 %
   9.7 K/uL
        [image002.jpg]
                             [**2138-11-10**]  03:56 AM
                             [**2138-11-10**]  09:58 PM
                             [**2138-11-10**]  10:41 PM
                             [**2138-11-11**]  04:01 AM
                             [**2138-11-12**]  04:18 AM
                             [**2138-11-13**]  03:54 AM
                             [**2138-11-13**]  09:46 PM
                             [**2138-11-14**]  05:03 AM
                             [**2138-11-15**]  04:02 AM
                             [**2138-11-16**]  04:04 AM
   WBC
   11.2
   10.7
   10.1
   11.8
   9.2
   14.7
   9.7
   Hct
   30.0
   27.4
   28.6
   28.8
   35.5
   29.6
   25.9
   Plt
   346
   308
   359
   [**Telephone/Fax (3) 8552**]
   353
   Cr
   1.6
   1.7
   1.5
   1.4
   1.4
   1.8
   1.9
   TCO2
   34
   30
   32
   Glucose
   157
   148
   138
   132
   122
   142
   161
   Other labs: PT / PTT / INR:16.8/29.8/1.5, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   [**Age over 90 **] yo female admit with hypercarbic respiratory failure and now s/p
   trach in the setting of lingular pneumonia.  She retains altered mental
   status and has perssitent need for ventilatory support due to altered
   mental status and ongoing respiratory status.
   1)Respiratory Failure-
   -Vanco/Cipro/Cefepime
   -Have moved to SBT this morning which is well tolerated
   -Will have patient up to chair and off ventilator if possible
   -Will complete pneumonia treatment
   -Will check VBG today
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-11-16**] 12:08 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes

2138-11-17 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Pressure support 5/0 trial, trach collar trial--> VBG: 7.36/55/41 ;
   tolerated for a 3 hours, then began agitated (was given zyprexa with
   little effect) --> placed back on PS 10/5 to give her some rest
   - RSBI in the AM 155, still not sedated overnight
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Vancomycin - [**2138-11-15**] 12:45 PM
   Cefipime - [**2138-11-16**] 01:00 PM
   Ciprofloxacin - [**2138-11-16**] 01:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-11-16**] 08:00 AM
   Morphine Sulfate - [**2138-11-16**] 10:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-17**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.5
C (97.7
   HR: 91 (73 - 111) bpm
   BP: 144/84(98) {91/36(49) - 168/84(102)} mmHg
   RR: 23 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  2,530 mL
                                                                    433 mL
   PO:
             TF:
                                                                    960 mL
                                                                    267 mL
   IVF:
                                                                  1,040 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  1,635 mL
                                                                    320 mL
   Urine:
                                                                  1,635 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    895 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 310 (293 - 400) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 155
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 9.3 L/min
   Physical Examination
   GEN: responds to some verbal
   HEENT:  decreased secretions from yesterday, eyes closed, no pupils
   visible (unchanged)
   CHEST: anterior chest and right posterior chest sound clear; could not
   listen to posterior left chest due to positioning
   ABD:  soft, PEG tube site clean dry and intact
   EXT:  pedal edema unchaged, feet warm and well perfused
   NEURO:  can respond to commands to open eyes (cannot open them fully)
   and squeeze w left hand; does not squeeze w right hand or move toes
   when asked
   Labs / Radiology
   401 K/uL
   8.4 g/dL
   166 mg/dL
   1.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   39 mg/dL
   105 mEq/L
   142 mEq/L
   26.8 %
   7.8 K/uL
        [image002.jpg]
                             [**2138-11-10**]  09:58 PM
                             [**2138-11-10**]  10:41 PM
                             [**2138-11-11**]  04:01 AM
                             [**2138-11-12**]  04:18 AM
                             [**2138-11-13**]  03:54 AM
                             [**2138-11-13**]  09:46 PM
                             [**2138-11-14**]  05:03 AM
                             [**2138-11-15**]  04:02 AM
                             [**2138-11-16**]  04:04 AM
                             [**2138-11-17**]  04:00 AM
   WBC
   10.7
   10.1
   11.8
   9.2
   14.7
   9.7
   7.8
   Hct
   27.4
   28.6
   28.8
   35.5
   29.6
   25.9
   26.8
   Plt
   [**Telephone/Fax (3) 8563**]22
   385
   353
   401
   Cr
   1.7
   1.5
   1.4
   1.4
   1.8
   1.9
   1.7
   TCO2
   34
   30
   32
   Glucose
   148
   138
   132
   122
   142
   161
   166
   Other labs: PT / PTT / INR:18.9/28.7/1.7, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.8
   mg/dL
[**2138-11-15**] 9:28 am URINE      Source: Catheter.
                            **FINAL REPORT [**2138-11-16**]**
   URINE CULTURE (Final [**2138-11-16**]):
      YEAST.    ~4000/ML.
GRAM STAIN (Final [**2138-11-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI  IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Preliminary):
      STAPH AUREUS COAG +.    MODERATE GROWTH.
   CXR: pending
   Assessment and Plan
   Mrs. [**Known lastname 1529**] is a [**Age over 90 **] yo female with hx of chronic renal failure,
   diabetes, hyperlipidemia, spinal stenosis, legal blindness, PVD, and
   recent lingular pneumonia s/p treatment wth Levofloxacin who presented
   to the [**Hospital Unit Name 10**] with hypercapnic respiratory failure. Now s/p trach/peg and
   new LUL VAP.
   .
   #Hypercapnic Hypoxemic respiratory failure c/b VAP: Patient was
   intubated for about 13 days before getting Trach and PEG [**2138-11-13**] by
   IP. She did get zyprexa last night which helped with agitation and may
   have sedated her slightly.  Likely has new VAP, in context of new LUL
   infiltrate on CXR.
   - Continue empiric coverage of Vanc/Cefepime/Cipro (Day 3 of 10 Began:
   [**11-14**])
   - F/U blood/urine/sputum Cxs
   - Continue on PS 5/0 as much as pt can tolerate and try trach collar
   while sitting up; can get VBG after a couple of hours on PS 5/0
   - consider PT consult
   - cont albuterol and ipratropium
   -has completed course of vancomycin for MSSA pneumonia
   - Likely d/c to rehab facility today
   .
   #Agitation:  Was not agitated overnight last night, though had
   attempted biting nurses previous night.  Zyprexa had good effect last
   night.  [**Month (only) 11**] have been secondary to delirium in setting of new
   pneumonia. Patient appeared to have become more agitated with grimacing
   when she was moved. Concerning for her chronic pain that is not
   relieved with standing Tylenol.
   - Consider morphine PRN.
   - Zyprexa PRN, consider standing order [**Hospital1 **]
   - Continue standing Tylenol for pain
   #Acute on Chronic Renal Failure: Improving with Cr to 1.5  from 1.7.
   Has some chronic renal insufficiency, intrarenal.  Likely has some
   prerenal component because hyaline casts in yesterday
s UA, but not
   given much fluid overall.  [**Month (only) 11**] have some post-renal component as well.
   Did receive 500ml bolus very early this AM.
   - FeNa 1.9% from [**11-15**]
   - hold off on IVFs now as urine output has picked up from 20cc/hr to
   40cc/hr later this AM and is positive almost 1L in past 8hrs
   - Consider ultrasound if continues to worsen
   - Renally dose medications
   #Hypertension: Currently with controlled BPs.
   - Continue Losartan
   - Change metoprolol to 75mg po TID (from 100mg po bid)
   - continue PRN zyprexa for agitation which contributes to increased BPs
   - Nifedipine cannot be restarted because it cannot be crushed
   - Continue to monitor and consider IV hydralazine for sbp > 180
   .
   # Constipation: Has not had bowel movement in several days on top of
   getting continuous tube feeds.
   - Change lactulose to standing until patient has a bowel movement
   - Continue PRN colace, senna
   #PVD: She is s/p bypass.  Has hx of left atrial thrombus.  Restarted
   Coumadin [**11-14**] afternoon.
   -  follow INR w goal [**3-18**]
   .
   #Glaucoma: pt legally blind
   - Continue eye drop regimen of atropine, cosopt, brimonidine
   .
   #Diabetes Type II: Well controlled on current regimen
   - Regular ISS
   .
   #Hypothyroidism: Continue home dose Levothyroxine, switch back to PO
   .
   #Hyperlipidemia: Continue home dose simvastatin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-11-16**] 12:08 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   Prophylaxis:  DVT:  coumadin
   Stress ulcer: H2 Blocker (switch back to PO from IV)
   VAP:  bundle
   Comments:
   Communication:  Comments:  2 daughters
   [**Name (NI) 129**] status: DNR
   Disposition: [**Hospital 8539**] Rehab facility

2138-11-17 12:29:00 Physician Attending Progress Note
Chief Complaint: Respiratory faiulre, pneumonia, anemia, renal faillure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient off ventilator for three hours yesterday on trach mask. Became
   agitated at that point and placed back on PSV.
   Afebrile. Started on antibiotics over the weekend for new fever,
   increased WBC, and staph in sputum.
   Fluid balance positive.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Cefipime - [**2138-11-16**] 01:00 PM
   Ciprofloxacin - [**2138-11-16**] 01:00 PM
   Vancomycin - [**2138-11-17**] 07:55 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2138-11-16**] 10:41 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-17**] 12:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 83 (73 - 111) bpm
   BP: 113/56(68) {91/36(49) - 168/84(102)} mmHg
   RR: 21 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  2,530 mL
                                                                    909 mL
   PO:
             TF:
                                                                    960 mL
                                                                    487 mL
   IVF:
                                                                  1,040 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                  1,635 mL
                                                                    600 mL
   Urine:
                                                                  1,635 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    895 mL
                                                                    309 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 315 (290 - 400) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 155
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, Right corneal opacity
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ), Scattered
   coarse upper airway sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   401 K/uL
   166 mg/dL
   1.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   39 mg/dL
   105 mEq/L
   142 mEq/L
   26.8 %
   7.8 K/uL
        [image002.jpg]
                             [**2138-11-10**]  09:58 PM
                             [**2138-11-10**]  10:41 PM
                             [**2138-11-11**]  04:01 AM
                             [**2138-11-12**]  04:18 AM
                             [**2138-11-13**]  03:54 AM
                             [**2138-11-13**]  09:46 PM
                             [**2138-11-14**]  05:03 AM
                             [**2138-11-15**]  04:02 AM
                             [**2138-11-16**]  04:04 AM
                             [**2138-11-17**]  04:00 AM
   WBC
   10.7
   10.1
   11.8
   9.2
   14.7
   9.7
   7.8
   Hct
   27.4
   28.6
   28.8
   35.5
   29.6
   25.9
   26.8
   Plt
   [**Telephone/Fax (3) 8563**]22
   385
   353
   401
   Cr
   1.7
   1.5
   1.4
   1.4
   1.8
   1.9
   1.7
   TCO2
   34
   30
   32
   Glucose
   148
   138
   132
   122
   142
   161
   166
   Other labs: PT / PTT / INR:18.9/28.7/1.7, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
   CHRONIC RENAL FAIULRE
   ==================
   Doing better with respect to respiratory status; tolerating some time
   off the ventilator. Now being treated for staph tracheobronchitis (not
   entirely clear that there is a new LUL infiltrate). Would try to
   achieve negative fluid balance (0.5-1.0L) each day; patient remains [**6-18**]
   kg above admission weight. Creat stable to down sligtly.
   Hct stable. No evidence of acute bleeding. Not at transfusion
   threshold.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-11-16**] 12:05 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes

2138-11-18 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - 5 minutes trach collar trial...got tachypneic and RSBI 267. Changed
   back to PS.
   - 2 mg of Morphine given in evening for pain
   - I/O goal of - 500 cc: at 0030 was only -130 cc. Gave 60 mg IV lasix
   - RSBI of 150 on 0/5 this morning
   -had periods of apnea overnight so her PS was increased to [**9-17**] but was
   decreased to [**6-17**] this morning
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Cefipime - [**2138-11-16**] 01:00 PM
   Ciprofloxacin - [**2138-11-16**] 01:00 PM
   Vancomycin - [**2138-11-17**] 07:55 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2138-11-18**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: currently denies any pain
   Flowsheet Data as of  [**2138-11-18**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 96 (74 - 102) bpm
   BP: 172/69(93) {96/38(49) - 172/81(100)} mmHg
   RR: 14 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,302 mL
                                                                    427 mL
   PO:
             TF:
                                                                    712 mL
                                                                    261 mL
   IVF:
                                                                    440 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    860 mL
   Urine:
                                                                  1,420 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -118 mL
                                                                   -433 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 301 (250 - 325) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 150
   SpO2: 99%
   ABG: ///31/
   Ve: 6.2 L/min
   Physical Examination
   GEN: responds to some verbal
   HEENT:  decreased secretions from yesterday, eyes closed, no pupils
   visible (unchanged)
   NECK: trach in place, with a small amount of blood tinged sputum at the
   orifice of the trach
   CHEST: anterior chest and right posterior chest sound clear; could not
   listen to posterior left chest due to positioning
   ABD:  soft, PEG tube site clean dry and intact, +BS, nontender
   EXT:  pedal edema unchaged, feet warm and well perfused
   NEURO:  can respond to commands to open eyes (cannot open them fully)
   and squeeze w left hand; does not squeeze w right hand or move toes
   when asked
   Labs / Radiology
   435 K/uL
   8.2 g/dL
   141 mg/dL
   1.6 mg/dL
   31 mEq/L
   4.1 mEq/L
   42 mg/dL
   105 mEq/L
   142 mEq/L
   26.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2138-11-10**]  10:41 PM
                             [**2138-11-11**]  04:01 AM
                             [**2138-11-12**]  04:18 AM
                             [**2138-11-13**]  03:54 AM
                             [**2138-11-13**]  09:46 PM
                             [**2138-11-14**]  05:03 AM
                             [**2138-11-15**]  04:02 AM
                             [**2138-11-16**]  04:04 AM
                             [**2138-11-17**]  04:00 AM
                             [**2138-11-18**]  04:29 AM
   WBC
   10.7
   10.1
   11.8
   9.2
   14.7
   9.7
   7.8
   7.6
   Hct
   27.4
   28.6
   28.8
   35.5
   29.6
   25.9
   26.8
   26.7
   Plt
   [**Telephone/Fax (3) 8563**]22
   [**Telephone/Fax (2) 8593**]35
   Cr
   1.7
   1.5
   1.4
   1.4
   1.8
   1.9
   1.7
   1.6
   TCO2
   30
   32
   Glucose
   148
   138
   132
   122
   142
   161
   166
   141
   Other labs:
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
GRAM STAIN (Final [**2138-11-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI  IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Preliminary):
      STAPH AUREUS COAG +.    MODERATE GROWTH.
   Assessment and Plan
   Mrs. [**Known lastname 1529**] is a [**Age over 90 **] yo female with hx of chronic renal failure,
   diabetes, hyperlipidemia, spinal stenosis, legal blindness, PVD, and
   recent lingular pneumonia s/p treatment wth Levofloxacin who presented
   to the [**Hospital Unit Name 10**] with hypercapnic respiratory failure. Now s/p trach/peg and
   new LUL VAP.
   .
   #Hypercapnic Hypoxemic respiratory failure c/b VAP: Patient was
   intubated for about 13 days before getting Trach and PEG [**2138-11-13**] by
   IP. She did get zyprexa last night which helped with agitation and may
   have sedated her slightly.  Likely has new VAP, in context of new LUL
   infiltrate on CXR.
   - Continue empiric coverage of Vanc (Day 4 of 8 Began: [**11-14**]) Prelim
   cultures are coag + Staph Aureus will f/u sensitivities
   - F/U blood/urine/sputum Cxs
   - Continue on PS 5/0 as much as pt can tolerate and try trach collar
   while sitting up; can get VBG after a couple of hours on PS 5/0
   - PT consult pending
   - cont albuterol and ipratropium
   -has completed course of vancomycin for MSSA pneumonia
   - Likely d/c to rehab facility today
   .
   #Agitation: Appeared to grimace upon moving q 2 hours appearing in
   pain, may have had an element of agitation previous night as she
   attempted to bite nurses.  Zyprexa had good effect two nights prior.
   [**Month (only) 11**] have been secondary to delirium in setting of new pneumonia.  Also,
   concerning she is not adequately pain controlled on standing tylenol
   for her chronic pain.  Spinal stenosis, chronic left arm pain and
   neuropathy all contribute to her chronic pain.
   - Consider morphine PRN.
   - d/c zyprexa for now and re-assess need if agitation increases
   - Continue standing Tylenol for pain
   #Acute on Chronic Renal Failure: Improving with Cr to 1.5  from 1.7.
   Has some chronic renal insufficiency, intrarenal.  Likely has some
   prerenal component because hyaline casts in UA, but not given much
   fluid overall.  [**Month (only) 11**] have some post-renal component as well.
   - Goal of  500cc-1 liter negative today as patient is quite volume up.
   - FeNa 1.9% from [**11-15**]
   - Consider ultrasound if continues to worsen
   - Renally dose medications
   #Hypertension: Currently with controlled BPs.
   - Continue Losartan
   - Change metoprolol to 75mg po TID (from 100mg po bid)
   - Nifedipine cannot be restarted because it cannot be crushed
   - Would increase metoprolol if needed for BP control
   .
   # Constipation: Pt. with small BM on [**11-17**] and has been getting
   continuous tube feeds.
   - Will continue standing lactulose pending a larger BM
   - Continue PRN colace, senna
   #PVD: She is s/p bypass.  Has hx of left atrial thrombus.  Restarted
   Coumadin [**11-14**] afternoon.
   -  follow INR w goal [**3-18**]
   .
   #Glaucoma: pt legally blind
   - Continue eye drop regimen of atropine, cosopt, brimonidine
   .
   #Diabetes Type II: Well controlled on current regimen
   - Regular ISS
   .
   #Hypothyroidism: Continue home dose Levothyroxine, switch back to PO
   .
   #Hyperlipidemia: Continue home dose simvastatin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-11-17**] 07:17 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: Hopeful d/c to pulmonary rehab today

2138-11-18 12:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, altered mental status, renal
   failure, anemia, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient taking very shallow breaths last night on PSV 5/5 and pressure
   support was increased to 8. This AM, tolerating PSV 5/5 again. Became
   very tachypneic on trach mask trial.
   Creat slightly improved.
   Being diuresed, but achieved only small negative fluid balance
   yesterday.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Cefipime - [**2138-11-16**] 01:00 PM
   Ciprofloxacin - [**2138-11-16**] 01:00 PM
   Vancomycin - [**2138-11-17**] 07:55 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-11-18**] 08:00 AM
   Furosemide (Lasix) - [**2138-11-18**] 10:00 AM
   Other medications:
   coumadin, lopressor, lasix, albuterol, atrovent, insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-18**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 100 (74 - 102) bpm
   BP: 175/74(97) {99/39(56) - 187/81(106)} mmHg
   RR: 23 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,302 mL
                                                                    864 mL
   PO:
             TF:
                                                                    712 mL
                                                                    491 mL
   IVF:
                                                                    440 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                  2,010 mL
   Urine:
                                                                  1,420 mL
                                                                  2,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -118 mL
                                                                 -1,146 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 279 (250 - 325) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 150
   SpO2: 96%
   ABG: ///31/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): Difficult to assess, Movement: Non
   -purposeful, No(t) Sedated, Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   435 K/uL
   141 mg/dL
   1.6 mg/dL
   31 mEq/L
   4.1 mEq/L
   42 mg/dL
   105 mEq/L
   142 mEq/L
   26.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2138-11-10**]  10:41 PM
                             [**2138-11-11**]  04:01 AM
                             [**2138-11-12**]  04:18 AM
                             [**2138-11-13**]  03:54 AM
                             [**2138-11-13**]  09:46 PM
                             [**2138-11-14**]  05:03 AM
                             [**2138-11-15**]  04:02 AM
                             [**2138-11-16**]  04:04 AM
                             [**2138-11-17**]  04:00 AM
                             [**2138-11-18**]  04:29 AM
   WBC
   10.7
   10.1
   11.8
   9.2
   14.7
   9.7
   7.8
   7.6
   Hct
   27.4
   28.6
   28.8
   35.5
   29.6
   25.9
   26.8
   26.7
   Plt
   [**Telephone/Fax (3) 8563**]22
   [**Telephone/Fax (2) 8593**]35
   Cr
   1.7
   1.5
   1.4
   1.4
   1.8
   1.9
   1.7
   1.6
   TCO2
   30
   32
   Glucose
   148
   138
   132
   122
   142
   161
   166
   141
   Other labs: PT / PTT / INR:19.7/28.7/1.8, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
   RENAL FAILURE, CHRONIC
   ANEMIA
   PNEUMONIA
   =================
   Making very slow progress re: weaning from ventilator. Suspect that
   muscle weakness is a part of the problem. Continue with diuresis to
   achieve negative fluid balance. Completing course of antibiotics.
   Hct stable. Not at transfusion threshold.
   Creat slightly improved. Diuresis as above.
   Trying to adjust pain regimen for chronic pain issues.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-11-17**] 07:17 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes

2138-11-19 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started tramadol for pain
   - BP elevated to 190s overnight, decreases when not agitated anymore
   - Possible d/c to rehab pending daughter's decision on placement
   - Pt did not attempt trach collar trial yesterday b/c of tachypnea
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Cefipime - [**2138-11-16**] 01:00 PM
   Ciprofloxacin - [**2138-11-16**] 01:00 PM
   Vancomycin - [**2138-11-17**] 07:55 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2138-11-18**] 08:00 AM
   Furosemide (Lasix) - [**2138-11-18**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-19**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 87 (74 - 108) bpm
   BP: 123/70(107) {116/50(65) - 193/105(119)} mmHg
   RR: 16 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.6 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,670 mL
                                                                    478 mL
   PO:
             TF:
                                                                    960 mL
                                                                    262 mL
   IVF:
                                                                    240 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  3,580 mL
                                                                    250 mL
   Urine:
                                                                  3,580 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,910 mL
                                                                    228 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 265 (265 - 325) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 5.1 L/min
   Physical Examination
   GEN: responds to some verbal
   HEENT:  decreased secretions from yesterday, eyes closed, no pupils
   visible (unchanged)
   NECK: trach in place, with a small amount of blood tinged sputum at the
   orifice of the trach
   CHEST: anterior chest and right posterior chest sound clear; could not
   listen to posterior left chest due to positioning
   ABD:  soft, PEG tube site clean dry and intact, +BS, nontender
   EXT:  pedal edema unchaged, feet warm and well perfused
   NEURO:  can respond to commands to open eyes (cannot open them fully)
   and squeeze w left hand; does not squeeze w right hand or move toes
   when asked, does try to speak when asked questions
   Labs / Radiology
   476 K/uL
   8.7 g/dL
   141 mg/dL
   1.5 mg/dL
   33 mEq/L
   3.6 mEq/L
   42 mg/dL
   104 mEq/L
   144 mEq/L
   28.1 %
   9.7 K/uL
        [image002.jpg]
                             [**2138-11-11**]  04:01 AM
                             [**2138-11-12**]  04:18 AM
                             [**2138-11-13**]  03:54 AM
                             [**2138-11-13**]  09:46 PM
                             [**2138-11-14**]  05:03 AM
                             [**2138-11-15**]  04:02 AM
                             [**2138-11-16**]  04:04 AM
                             [**2138-11-17**]  04:00 AM
                             [**2138-11-18**]  04:29 AM
                             [**2138-11-19**]  04:06 AM
   WBC
   10.7
   10.1
   11.8
   9.2
   14.7
   9.7
   7.8
   7.6
   9.7
   Hct
   27.4
   28.6
   28.8
   35.5
   29.6
   25.9
   26.8
   26.7
   28.1
   Plt
   [**Telephone/Fax (3) 8563**]22
   [**Telephone/Fax (3) 8606**]
   Cr
   1.7
   1.5
   1.4
   1.4
   1.8
   1.9
   1.7
   1.6
   1.5
   TCO2
   32
   Glucose
   148
   138
   132
   122
   142
   161
   166
   141
   141
   Other labs: PT / PTT / INR:21.7/29.3/2.0, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:9.5 mg/dL, Mg++:2.3 mg/dL, PO4:4.4
   mg/dL
   vanc level overnight=15.1
   BCx: NGTD from [**11-15**]
 URINE CULTURE (Final [**2138-11-17**]): s/p foley change
      GRAM POSITIVE BACTERIA.    ~1000/ML.
    Alpha hemolytic colonies consistent with alpha streptococcus or Lactobacillu
s sp.
[**2138-11-15**] 9:28 am SPUTUM      Source: Endotracheal.
                            **FINAL REPORT [**2138-11-18**]**
   GRAM STAIN (Final [**2138-11-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Final [**2138-11-18**]):
      Commensal Respiratory Flora Absent.
      STAPH AUREUS COAG +.    MODERATE GROWTH.
         OF TWO COLONIAL MORPHOLOGIES.
         Please contact the Microbiology Laboratory ([**8-/2435**]) immediately if
         sensitivity to clindamycin is required on this patient's isolate.
      YEAST.    SPARSE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPH AUREUS COAG +
                             |
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S
   Assessment and Plan
   Mrs. [**Known lastname 1529**] is a [**Age over 90 **] yo female with hx of chronic renal failure,
   diabetes, hyperlipidemia, spinal stenosis, legal blindness, PVD, and
   recent lingular pneumonia s/p treatment wth Levofloxacin who presented
   to the [**Hospital Unit Name 10**] with hypercapnic respiratory failure. Now s/p trach/peg and
   new LUL VAP.
   .
   #Hypercapnic Hypoxemic respiratory failure c/b VAP: Patient was
   intubated for about 13 days before getting Trach and PEG [**2138-11-13**] by
   IP. She did get zyprexa last night which helped with agitation and may
   have sedated her slightly.  Likely has new VAP, in context of new LUL
   infiltrate on CXR.
   - Empirically covered by Vanc (Day 6 of 8 Began: [**11-14**]) Sputum cultures
   MSSA; resistent to levoflox. Since patient has a pcn allergy, will
   continue with vancomycin to complete full 8 day course
   - F/U blood Cxs; if any growth occurs, will contact rehab facility.
   - Continue on PS 5/0 as much as pt can tolerate and try trach collar
   while sitting up;
   - PT consult pending
   - cont albuterol and ipratropium
   -has already completed course of vancomycin for MSSA pneumonia
   - Likely d/c to rehab facility today or tomorrow pending the daughter
   decision on facility
   .
   #Agitation: Appeared to grimace upon moving q 2 hours appearing in
   pain, may have had an element of agitation previous night as she
   attempted to bite nurses.  Zyprexa had good effect two nights prior.
   [**Month (only) 11**] have been secondary to delirium in setting of new pneumonia.  Also,
   concerning she is not adequately pain controlled on standing tylenol
   for her chronic pain.  Spinal stenosis, chronic left arm pain and
   neuropathy all contribute to her chronic pain.
   - d/c zyprexa for now and re-assess need if agitation increases
   - Continue standing Tylenol and tramadol prn pain
   #Acute on Chronic Renal Failure: Improving with Cr at 1.5, back to her
   baseline.  Has some chronic renal insufficiency, intrarenal.  Likely
   has some prerenal component because hyaline casts in UA, but not given
   much fluid overall.  .
   - Renally dose medications
   #Hypertension: Currently with controlled BPs.  Increases intermittently
   with agitation/pain
   - Continue Losartan
   - Continue metoprolol to 75mg po TID; will change to long acting toprol
   XL upon discharge
   - Continue Amlodipine 5mg daily
   - Pain control
   .
   # Constipation: Resolved. Pt. with several large bowel movements.
   - Will change lactulose to prn as patient no longer has constipation.
   - Continue PRN colace, senna
   #PVD: She is s/p bypass.  Has hx of left atrial thrombus.  Restarted
   Coumadin [**11-14**] afternoon.
   -  follow INR w goal [**3-18**]
   .
   #Glaucoma: pt legally blind
   - Continue eye drop regimen of atropine, cosopt, brimonidine
   .
   #Diabetes Type II: Patient with elevated blood sugars, will add fixed
   dose of glargine 5units QHS and continue ISS
   - Glargine & Regular ISS
   .
   #Hypothyroidism: Continue home dose Levothyroxine, switch back to PO
   .
   #Hyperlipidemia: Continue home dose simvastatin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-11-17**] 07:17 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: Hopeful d/c to pulmonary rehab today pending bed
   assignment

2138-11-19 12:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory failurie, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient diuresed well yesterday. On PSV 5/5 today. Sedation completely
   off.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Cefipime - [**2138-11-16**] 01:00 PM
   Ciprofloxacin - [**2138-11-16**] 01:00 PM
   Vancomycin - [**2138-11-19**] 08:07 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Coumadin, tylenol, Cozaar, lopressor, lasix, albuterol, atrovent,
   chlorhexidine, atorvostatin, thyroxine, famotidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-11-19**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 80 (74 - 108) bpm
   BP: 126/77(88) {116/50(65) - 193/105(119)} mmHg
   RR: 24 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.6 kg (admission): 86.4 kg
   Height: 66 Inch
             Total In:
                                                                  1,670 mL
                                                                  1,008 mL
   PO:
             TF:
                                                                    960 mL
                                                                    478 mL
   IVF:
                                                                    240 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  3,580 mL
                                                                    750 mL
   Urine:
                                                                  3,580 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,910 mL
                                                                    258 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 243 (243 - 265) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, corneal opacity
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube, Tracheostomy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Clear anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Difficult to assess because of communication
   problems, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   476 K/uL
   141 mg/dL
   1.5 mg/dL
   33 mEq/L
   3.6 mEq/L
   42 mg/dL
   104 mEq/L
   144 mEq/L
   28.1 %
   9.7 K/uL
        [image002.jpg]
                             [**2138-11-11**]  04:01 AM
                             [**2138-11-12**]  04:18 AM
                             [**2138-11-13**]  03:54 AM
                             [**2138-11-13**]  09:46 PM
                             [**2138-11-14**]  05:03 AM
                             [**2138-11-15**]  04:02 AM
                             [**2138-11-16**]  04:04 AM
                             [**2138-11-17**]  04:00 AM
                             [**2138-11-18**]  04:29 AM
                             [**2138-11-19**]  04:06 AM
   WBC
   10.7
   10.1
   11.8
   9.2
   14.7
   9.7
   7.8
   7.6
   9.7
   Hct
   27.4
   28.6
   28.8
   35.5
   29.6
   25.9
   26.8
   26.7
   28.1
   Plt
   [**Telephone/Fax (3) 8563**]22
   [**Telephone/Fax (3) 8606**]
   Cr
   1.7
   1.5
   1.4
   1.4
   1.8
   1.9
   1.7
   1.6
   1.5
   TCO2
   32
   Glucose
   148
   138
   132
   122
   142
   161
   166
   141
   141
   Other labs: PT / PTT / INR:21.7/29.3/2.0, CK / CKMB /
   Troponin-T:125/5/<0.01, ALT / AST:15/16, Alk Phos / T Bili:77/0.3,
   Amylase / Lipase:88/15, Differential-Neuts:68.8 %, Lymph:19.1 %,
   Mono:9.0 %, Eos:3.0 %, Fibrinogen:410 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:165 IU/L, Ca++:9.5 mg/dL, Mg++:2.3 mg/dL, PO4:4.4
   mg/dL
   Microbiology: Sputum culture: MSSA
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 ALTERATION IN NUTRITION
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
   ANEMIA
   ==========================
   Mental status improved off sedation. Doing well on PSV 5/5. Will go to
   rehab today to continue weaning from ventilator. Completing course
   ofantibiotics.
   Hct stable. Not at transfusion threshold.
   Creat stable.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2138-11-18**] 09:00 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2138-11-4**] 01:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes